### PR TITLE
More uniformly handle endpoint and notification queues - Haskell and Refine

### PR DESCRIPTION
**Pull request by michaelmcinerney**

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
Force pushed (a few times...) to remove some `.marks` files and remove trailing whitespaces.

File: lib/RCorres.thy [hunk 1]
```diff
@@ -476,13 +492,16 @@ method rcorres uses rcorres_del rcorres_lift_del wp simp declares rcorres rcorre
 
 text \<open>
   This method is intended to be used to solve or make progress with @{const rcorres} goals via
-  lifting, when the precondition is not schematic.\<close>
-method rcorres_conj_lift methods solve uses rule simp wp =
+  lifting, when the precondition is not schematic.
+
+  The user may specify a set to the argument rule: so that side conditions such as @{const no_fail},
+  @{const empty_fail}, and @{const det_wp} can be solved more directly.\<close>
+method rcorres_conj_lift methods solve_final_imp uses rule simp wp =
```
Comment (lsf37) [inline lib/RCorres.thy:499]: I still have the urge to rename `rule`, because at the use side it is not going to be clear what kind of rule and what we're solving (`wp` and `simp` are clear enough). The problem is that it's multi-purpose. Maybe we should call it at least `intro`, since it's always used as an intro rule even though it's not a general-purpose intro rule.

Not sure. Any other opinions?

File: proof/refine/RISCV64/ADT_H.thy [hunk 2]
```diff
@@ -506,13 +522,48 @@ proof -
 
     apply (clarsimp split: kernel_object.splits)
     apply (intro conjI impI allI)
-             apply (erule relatedE, ko, ako, simp add: tcb_relation_cut_def)
+
+             apply (rule relatedE, fastforce, ko, ako, simp add: tcb_relation_cut_def)
```
Comment (lsf37) [inline proof/refine/RISCV64/ADT_H.thy]:
```suggestion
             apply (rule relatedE, fastforce, ko, ako, simp add: tcb_relation_cut_def)
```

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 3]
```diff
@@ -173,28 +173,19 @@ When stored in the physical memory model (described in \autoref{sec:model.pspace
...
-a list of pointers to waiting threads.
-
->         = RecvEP { epQueue :: [PPtr TCB] }
-
-\item idle;
-
->         | IdleEP
 
-\item or waiting for one or more send operations to complete, with a
-list of pointers to waiting threads;
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Structures.lhs:191]: We should not completely get rid of the inline comments. It's clear to us what the constructors mean, but that SendEP state is for waiting on send operations to complete should be a comment (same for receive). Doesn't have to be LaTeX, could probably be a `--` comment after each constructor.

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 4]
```diff
@@ -274,29 +265,21 @@ list of pointers to waiting threads;
...
-\begin{itemize}
-\item idle;
 
->         = IdleNtfn
-
-\item active, ready to deliver a notification message consisting of one data word and one message identifier word.
-
->         | ActiveNtfn { ntfnMsgIdentifier :: Word }
-
-\item or waiting for one or more send operations to complete, with a list of pointers to the waiting threads;
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Structures.lhs:289]: (same as the EP comments above)

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 5]
```diff
@@ -274,29 +265,21 @@ list of pointers to waiting threads;
...
+>     | Active
+>     | Waiting
+>     deriving (Show, Eq)
 
-> data Notification = NTFN {
->     ntfnObj :: NTFN,
+> data Notification = Notification {
+>     ntfnState :: NTFNState,
+>     ntfnQueue :: TcbQueue,
+>     ntfnMsgIdentifier :: Maybe Word,
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Structures.lhs]: These should get comments on what they are and under which circumstances we expect them to have values (queue empty when idle, non-empty when not; msgIdentifier Some iff Active)

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 6]
```diff
@@ -555,6 +538,10 @@ Each entry in the domain schedule specifies a domain and a length (a number of t
 > isSend (BlockedOnSend _ _ _ _ _) = True
 > isSend _ = False
 
+> isNtfn :: ThreadState -> Bool
+> isNtfn (BlockedOnNotification _) = True
+> isNtfn _ = False
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Structures.lhs]: The canonical name here would be `isBlockedOnNotification`. It's a lot to type, but I think it would be cleared in code where we don't immediately see if the test is on a kernel object or a thread state.

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: This is named in analogy with isSend and isReceive just above. Should I just fix this one, or fix all of them, while I'm here?

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 5 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: Sure, I can do that. But doesn't the same thinking apply to all the kernel objects? And if we were to change what `valid_ntfn'` says in the future (I changed it about half a dozen times while I was doing this work) then the comment gets out of date and so on.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 7]
```diff
@@ -145,64 +159,46 @@ The IPC receive operation is essentially the same as the send operation, but wit
...
+>                 let badge = blockingIPCBadge senderState
+>                 let canGrant = blockingIPCCanGrant senderState
+>                 let canGrantReply = blockingIPCCanGrantReply senderState
+>                 doIPCTransfer sender (Just epptr) badge canGrant thread
+>                 scOpt <- threadGet tcbSchedContext sender
+>                 ifCondRefillUnblockCheck scOpt (Just False) (Just True)
+>                 let call = blockingIPCIsCall senderState
+>                 fault <- threadGet tcbFault sender
+>                 if (call || isJust fault)
+>                     then if ((canGrant || canGrantReply) && replyOpt /= Nothing)
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: These were there before, but if we're changing things anyway we might as well get rid of the C-isms in Haskell.
```suggestion
>                 if call || isJust fault
>                     then if (canGrant || canGrantReply) && replyOpt /= Nothing
```

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 8]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>               (\ptrOpt -> do
+>                    tcb <- getObject (fromJust ptrOpt)
+>                    return $ tcbSchedNext tcb)
+>               ptrOpt
+
+> orderedInsert :: Ord b => PPtr TCB -> TcbQueue -> (PPtr TCB -> KernelR b) -> (b -> b -> Bool) -> Kernel TcbQueue
+> orderedInsert t q f r = do
+>     stateAssert sym_heap_sched_pointers_asrt ""
+>     val <- getsJust (f t)
+>     test <- if (tcbQueueEmpty q)
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]:
```suggestion
>     test <- if tcbQueueEmpty q
```

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 9]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>                     head <- return $ fromJust $ tcbQueueHead q
+>                     headVal <- getsJust (f head)
+>                     return (r val headVal && val /= headVal)
+>     if test
+>         then tcbQueuePrepend q t
+>         else do
+>             assert (tcbQueueHead q /= Nothing) "the head of q cannot be Nothing"
+>             end <- return $ fromJust $ tcbQueueEnd q
+>             endVal <- getsJust (f end)
+>             if (r endVal val)
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]:
```suggestion
>             if r endVal val
```

File: proof/refine/StateRelationPre.thy [hunk 10]
```diff
@@ -25,4 +25,13 @@ text \<open>
 type_synonym obj_relation_cut = "Structures_A.kernel_object \<Rightarrow> Structures_H.kernel_object \<Rightarrow> bool"
 type_synonym obj_relation_cuts = "(machine_word \<times> obj_relation_cut) set"
 
+text \<open>
+  An analogue of cmap_relation in CRefine, used to formulate predicates stating that all kernel
+  objects of some type are in a particular relation, in the case where for every abstract kernel
```
Comment (lsf37) [inline proof/refine/StateRelationPre.thy]:
```suggestion
  objects of some type are in a particular relation. Applies where for every abstract kernel
```

File: proof/refine/RISCV64/ArchHeapStateRelation.thy [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+
+abbreviation data_pages_relation :: "'z::state_ext state \<Rightarrow> kernel_state \<Rightarrow> bool" where
+  "data_pages_relation s s' \<equiv>
+     data_pages_relation_2 (page_devs_of s) (page_sizes_of s)
+                           (userDataDevice_at s') (userData_at s')"
+
+lemmas data_pages_relation_def = data_pages_relation_2_def
+
+definition ptr_to_pte_ptrs :: "obj_ref \<Rightarrow> machine_word set" where
+  "ptr_to_pte_ptrs p = { p + (ucast y << pteBits) | y. y \<in> (UNIV :: pt_index set) }"
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelation.thy:37]: Do you depend on the formulation with `{ .. | ..}` in the proof a lot? Because it is a bit strange with `UNIV` on the right-hand side. Could be written as `(%y::pt_index. p + (ucast y << pteBits)) ' UNIV` for instance. Maybe there is an even shorter way.

Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelation.thy:37]: Then again, maybe it is nicer to keep it analogous to the other definitions.

File: proof/refine/RISCV64/ArchHeapStateRelation.thy [hunk 12]
```diff
@@ -0,0 +1,99 @@
...
+     \<and> (\<forall>p\<in>dom pts. \<forall>pt y pte'. pts p = Some pt \<and> ptes' (p + (ucast y << pteBits)) = Some pte'
+                                \<longrightarrow> pte_relation' (pt y) pte')"
+
+abbreviation ptes_relation :: "'z::state_ext state \<Rightarrow> kernel_state \<Rightarrow> bool" where
+  "ptes_relation s s' \<equiv> ptes_relation_2 (pts_of s) (ptes_of' s')"
+
+lemmas ptes_relation_def = ptes_relation_2_def
+
+text \<open> We may prefer to instead use an _2 style definition with the @{const aobjs_of} heap.\<close>
+definition aobjs_relation :: "'z::state_ext state \<Rightarrow> kernel_state \<Rightarrow> bool" where
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelation.thy]: Now that the work is done, what do you think, should it take `aobjs_of` instead? Although we should probably wait for the full arch split on this, because AARCH64 or X64 might have other things that might flow in here, e.g. from ghost state.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy [hunk 13]
```diff
@@ -0,0 +1,586 @@
...
+context Arch begin arch_global_naming
+
+named_theorems HeapStateRelation_R_assms
+
+lemmas ko_relations =
+  cte_relation_def pte_relation_def ep_relation_cut_def ntfn_relation_cut_def
+  other_aobj_relation_def tcb_relation_cut_def asid_pool_relation_def
+
+lemma pspace_relation_tcbs_relation:
+  "pspace_relation (kheap s) (ksPSpace s') \<Longrightarrow> tcbs_relation s s'"
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:27]: This is a generic (non-arch) statement. Does the proof need anything arch-specific, or could this live in a generic file? (same for the other arch-generic object types)

Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:27]: I see there is an `arch_kernel_obj.split_asm` in the proof. Do we actually need it? If yes, an arch split comment would be good so that we can look into it in the future.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy [hunk 14]
```diff
@@ -0,0 +1,586 @@
...
+   apply (force simp: vmpage_size_to_ptrs_def page_of_def opt_map_red)
+  apply (clarsimp simp: page_of_def opt_map_def)
+  done
+
+lemma data_pages_relation_lift_rcorres:
+  "\<lbrakk>\<And>s'. no_fail (\<lambda>s. Q s s') f; empty_fail f;
+    \<And>P s'. \<lbrace>\<lambda>s. P (aobjs_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (aobjs_of s)\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (aobjs_of' s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (aobjs_of' s')\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (userDataDevice_at s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (userDataDevice_at s')\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (userData_at s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (userData_at s')\<rbrace>\<rbrakk>
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:449]: Shouldn't these to not already follow from `⋀P s. ⦃λs'. P (aobjs_of' s') ∧ Q s s'⦄ f' ⦃λ_ s'. P (aobjs_of' s')⦄`?

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy [hunk 15]
```diff
@@ -0,0 +1,586 @@
...
+   apply (rule rcorres_lift_conc)
+    apply (rule rcorres_prop_fwd)
+      by (fastforce intro: no_fail_pre hoare_weaken_pre)+
+
+lemma aobjs_relation_lift_rcorres:
+  "\<lbrakk>\<And>s'. det_wp (\<lambda>s. Q s s') f; empty_fail f;
+    \<And>P s'. \<lbrace>\<lambda>s. P (aobjs_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (aobjs_of s)\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (aobjs_of' s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (aobjs_of' s')\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (userDataDevice_at s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (userDataDevice_at s')\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (userData_at s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (userData_at s')\<rbrace>\<rbrakk>
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:486]: If these follow from `aobjs_of'`, that would make this a pretty nice lemma.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 14 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:449]: `KOUserDataDevice` and `KOUserData` are regular old kernel objects, not of type `arch_kernel_object`, so it doesn't follow.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 13 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:27]: I know that this does include at least `obj_relation_cuts_def2`, which is an arch lemma. During the Zoom call when we were discussing these things, Raf said that this was a big pain to deal with.

File: proof/refine/RISCV64/ArchHeapStateRelation.thy (hunk 11 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchHeapStateRelation.thy:37]: I don't think I depend on this formulation in the proof. I'd be happy to write whatever here. The main thing is to get `pspace_relation` written in terms of the smallest heaps possible, so the actual definitions don't bother me much at all.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 14 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:449]: Yeah, just saw that. Pity.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy [hunk 16]
```diff
@@ -0,0 +1,586 @@
...
+  apply (rename_tac a sz, drule_tac x=a in spec)
+  apply (force simp: cnode_of_def opt_map_def
+              split: Structures_A.kernel_object.splits option.splits)
+  done
+
+lemma heap_ghost_relation_lift_rcorres:
+  "\<lbrakk>\<And>s'. det_wp (\<lambda>s. Q s s') f; empty_fail f;
+    \<And>P s'. \<lbrace>\<lambda>s. P (page_sizes_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (page_sizes_of s)\<rbrace>;
+    \<And>P s'. \<lbrace>\<lambda>s. P (cnode_sizes_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (cnode_sizes_of s)\<rbrace>;
+    \<And>P s'. \<lbrace>\<lambda>s. P (cnodes_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (cnodes_of s)\<rbrace>;
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:531]: I think we're doing the fst/snd thing now, so we could reduce this one to just one condition.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 6 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: Those two at least can't be confused with kernel objects, but it would make sense to stick to the regular names. Not sure how often they are used. Change it only if it's not too much noise.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 13 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:27]: It is. Ok, let's put a comment there that this uses the arch kernel object split and `obj_relation_cuts_def2`, so can't currently be generic. (With a `FIXME: arch-split`). Then we can find them again if/when we figure something out.

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 16 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:531]: This came up, but for the scheduling contexts, during the Zoom call. The rather improbable scenario I had in mind is that we add another field to the kernel object, but the relation doesn't need that field to be preserved, for some reason. So I do sort of prefer this more cautious approach.

File: lib/RCorres.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/RCorres.thy:499]: I don't have any strong opinions on this one, except that I would hope that if someone were wanting to use the method and wanted to know how it did work, they would read the comment. Maybe a big hope. If it helps, I could make the comment a bit more explicit by saying "so that the side conditions *for the abstract monad* such as..." Or "abstract monadic function". I'm never sure which is correct.

File: proof/refine/RISCV64/ArchHeapStateRelation.thy (hunk 12 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchHeapStateRelation.thy]: Since we have those pesky `userData_at` and `userDataDevice_at` heaps to consider as well, it can't be just in terms of `aobjs_of`, which might make that idea less appealing. I like the way it is at the moment, and I think the arch-split machinery should still work well with this approach, though I'm of course not the best person to make that judgement call.

File: proof/refine/HeapStateRelation.thy [hunk 17]
```diff
@@ -0,0 +1,794 @@
...
+lemma heap_pspace_relation_ntfns_relation[elim!]:
+  "heap_pspace_relation s s' \<Longrightarrow> ntfns_relation s s'"
+  by (simp add: heap_pspace_relation_def)
+
+lemma heap_pspace_relation_replies_relation[elim!]:
+  "heap_pspace_relation s s' \<Longrightarrow> replies_relation s s'"
+  by (simp add: heap_pspace_relation_def)
+
+lemma heap_pspace_relation_KOKernelData[elim!]:
+  "heap_pspace_relation s s' \<Longrightarrow> (\<forall>p. ksPSpace s' p \<noteq> Some KOKernelData)"
```
Comment (lsf37) [inline proof/refine/HeapStateRelation.thy]: This is not a good `[elim]` rule, the rhs is unlikely to match. We could make it an `[elim!]` or `[dest!]` rule if we made `ksPSpace s' p = Some KOKernelData` the major (first) premise.

File: proof/refine/HeapStateRelation.thy [hunk 18]
```diff
@@ -0,0 +1,794 @@
...
+
+lemma eps_relation_lift_rcorres[rcorres_lift]:
+  "\<lbrakk>\<And>s'. no_fail (\<lambda>s. Q s s') f; empty_fail f;
+    \<And>P s'. \<lbrace>\<lambda>s. P (eps_of s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (eps_of s)\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (eps_of' s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s. P (eps_of' s)\<rbrace>\<rbrakk>
+   \<Longrightarrow> rcorres (\<lambda>s s'. eps_relation s s' \<and> Q s s') f  f' (\<lambda>_ _. eps_relation)"
+  apply (rule rcorres_lift_conc[where p=eps_of'])
+   apply (rule rcorres_lift_abs)
+    apply (rule rcorres_prop_fwd)
+     by (fastforce intro: no_fail_pre hoare_weaken_pre)+
```
Comment (lsf37) [inline proof/refine/HeapStateRelation.thy:345]: Are these slow `fastforce`? If not, these should all be `apply`/`done`.

File: proof/refine/HeapStateRelation.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/refine/HeapStateRelation.thy]: OK sure. I actually don't know what the reasoning is for what should or should not be `[elim]` or `[dest!]` or whatever. What is the thinking behind all this?

File: proof/refine/HeapStateRelation.thy (hunk 18 above)
Comment (michaelmcinerney) [reply proof/refine/HeapStateRelation.thy:345]: Yes all the `by`s in this file are a bit slow, maybe 2-3 seconds or thereabouts.

File: proof/refine/HeapStateRelation.thy (hunk 17 above)
Comment (lsf37) [reply proof/refine/HeapStateRelation.thy]: `elim` rules are generally of the form `[| E; Q ==> P |] ==> P` where `P` is a free `P`, `E` is a complex term that should be eliminated in the assumptions (hence the name) and replaced by `Q`. The tools that understand `elim` match simultaneously on the major premise `E` and the conclusion `P`. 

We often use the degenerated form `E ==> P` where `P` is not free. That works for cases where both `E` and `P` occur simultaneously and the rule solves the goal. For that to work `P` must be something that actually occurs in conclusions of goals.

`[dest]` will take a rule `[| D; ... |] ==> P` and match on `D` only, in the assumptions of the goal, destroying `D` in those assumptions, and replacing it by `P` (and adding subgoals for any `...`).

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 16 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:531]: Ok, as an interface this makes sense, and I guess it is up to the rest of the proof to show the base projection instead and use it. No change needed.

File: proof/refine/HeapStateRelation.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/refine/HeapStateRelation.thy]: Great, thanks.

Comment (lsf37) [reply proof/refine/HeapStateRelation.thy]: So in the case above, if the rule is written as

```
[| ksPSpace s' p = Some KOKernelData; heap_pspace_relation s s' |] ==> False
```

then at least it is more likely to match. Whether it should be `[elim]` or `[elim!]` is a separate question. If we are confident that we will always have `heap_pspace_relation` in the goal or something we can derive `heap_pspace_relation` from when `KOKernelData` appears, then we can mark the rule as safe (`[elim!]`). Otherwise we shouldn't (i.e. we should leave it on just `[elim]`), because it would produce potentially unprovable `heap_pspace_relation` goals.

File: proof/refine/HeapStateRelation.thy [hunk 19]
```diff
@@ -0,0 +1,794 @@
...
+    \<And>P s'. \<lbrace>\<lambda>s. P (machine_state s) \<and> Q s s'\<rbrace> f \<lbrace>\<lambda>_ s. P (machine_state s)\<rbrace>;
+    \<And>P s. \<lbrace>\<lambda>s'. P (ksMachineState s') \<and> Q s s'\<rbrace> f' \<lbrace>\<lambda>_ s'. P (ksMachineState s')\<rbrace>\<rbrakk>
+   \<Longrightarrow> rcorres
+         (\<lambda>s s'. machine_state s = ksMachineState s' \<and> Q s s')
+         f  f'
+         (\<lambda>_ _ s s'. machine_state s = ksMachineState s')"
+  apply (rule rcorres_lift_conc)
+   apply (rule rcorres_lift_abs)
+    apply (rule rcorres_prop_fwd)
+      by (fastforce intro: no_fail_pre hoare_weaken_pre)+
```
Comment (lsf37) [inline proof/refine/HeapStateRelation.thy]: These last rules all have the form

```
  "⟦⋀s'. no_fail (λs. Q s s') f; empty_fail f;
    ⋀P s'. ⦃λs. P (p s) ∧ Q s s'⦄ f ⦃λ_ s. P (p s)⦄;
    ⋀P s. ⦃λs'. P (p' s') ∧ Q s s'⦄ f' ⦃λ_ s'. P (p' s')⦄⟧
   ⟹ rcorres
         (λs s'. p s = p' s' ∧ Q s s')
         f  f'
         (λ_ _ s s'. p s = p' s')"
```

Would that be provable on its own so that we can all just make them instances by setting `p` and `p'`?

File: proof/refine/HeapStateRelation.thy (hunk 17 above)
Comment (michaelmcinerney) [reply proof/refine/HeapStateRelation.thy]: Right, I at first wasn't thinking so much about simplification having occurred on the rhs. 

You don't need to answer this right now, but why do we have things like `valid_sched s ==> valid_release_q s` as `[elim!]`? We don't always have `valid_sched s` in the premisses when we have `valid_release_q s` as the conclusion.

File: proof/refine/HeapStateRelation.thy (hunk 19 above)
Comment (lsf37) [reply proof/refine/HeapStateRelation.thy]: I suppose instead of `=` we could generalise to `H (p s) (p' s')`

File: proof/refine/KHeap_R.thy [hunk 20]
```diff
@@ -2484,25 +2372,42 @@ lemma setObject_tcb_pspace_no_overlap':
 
 end
 
+lemma get_object_det_wp[wp]:
+  "det_wp (\<lambda>s. \<exists>v. kheap s ptr = Some v) (get_object ptr)"
```
Comment (lsf37) [inline proof/refine/KHeap_R.thy]: Would we want this instead as this?
```suggestion
  "det_wp (obj_at \<top> ptr) (get_object ptr)"
```

File: proof/refine/KHeap_R.thy [hunk 21]
```diff
@@ -2936,6 +2757,325 @@ lemma obj_at'_is_canonical:
...
+  "\<lbrakk>tcb_at tcb_ptr s; tcbs_relation s s'; pspace_aligned' s'; pspace_distinct' s'\<rbrakk>
+   \<Longrightarrow> tcb_at' tcb_ptr s'"
+  apply (clarsimp simp: obj_at_def is_tcb_def)
+  apply (clarsimp split: Structures_A.kernel_object.splits)
+  apply (frule (3) tcbs_relation_tcb_relation_abs_obj_at')
+  apply (clarsimp simp: obj_at'_def)
+  done
+
+lemma eps_relation_ep_relation_abs:
+  "\<lbrakk>kheap s ptr = Some (kernel_object.Endpoint ep); eps_relation s s'\<rbrakk>
```
Comment (lsf37) [inline proof/refine/KHeap_R.thy]: Does the type `kernel_object` distinguish anything? (it's the same name in ASpec and Haskell. Or do we have another Endpoint constructor floating around?)

```suggestion
  "\<lbrakk>kheap s ptr = Some (Endpoint ep); eps_relation s s'\<rbrakk>
```

Comment (lsf37) [reply proof/refine/KHeap_R.thy]: hm, in ExecSpec it'd be `KO..`, so I guess it does distinguish something. Still seems weird to me. I'd prefer `Structures_A.Endpoint` if it is ambiguous.

File: proof/refine/KHeap_R.thy [hunk 22]
```diff
@@ -2936,6 +2757,325 @@ lemma obj_at'_is_canonical:
...
+                 dest!: readObject_misc_ko_at')
+  apply (clarsimp simp: assert_def fail_def obj_at_def return_def is_ntfn partial_inv_def)
+  apply (clarsimp simp add: state_relation_def pspace_relation_def obj_at'_def)
+  apply (drule bspec)
+   apply blast
+  apply (simp add: ntfn_relation_cut_def ntfn_relation_def)
+  done
+
+lemma state_relation_sc_relation'':
+  "\<lbrakk>(s, s') \<in> state_relation; kheap s ptr = Some (kernel_object.SchedContext sc n); sc_at ptr s;
```
Comment (lsf37) [inline proof/refine/KHeap_R.thy:2921]: (if disambiguation is necessary)

```suggestion
  "\<lbrakk>(s, s') \<in> state_relation; kheap s ptr = Some (Structures_A.SchedContext sc n); sc_at ptr s;
```

File: proof/refine/KHeap_R.thy (hunk 21 above)
Comment (lsf37) [reply proof/refine/KHeap_R.thy]: (a few more of these below)

File: proof/refine/KHeap_R.thy [hunk 23]
```diff
@@ -2936,6 +2757,325 @@ lemma obj_at'_is_canonical:
...
+     apply (rule get_sched_context_exs_valid)
+     apply (fastforce intro: sc_atD1)
+    apply wpsimp
+    apply (fastforce intro: sc_atD1)
+   apply simp+
+  done
+
+lemma aligned'_distinct'_obj_at'_propI:
+  "\<lbrakk>ksPSpace s' x = Some ko;  pspace_aligned' s'; pspace_distinct' s';
+    if koTypeOf ko  = SchedContextT then pspace_bounded' s' else True;
```
Comment (lsf37) [inline proof/refine/KHeap_R.thy]:
```suggestion
    koTypeOf ko  = SchedContextT --> pspace_bounded' s';
```

File: proof/refine/HeapStateRelation.thy (hunk 17 above)
Comment (lsf37) [reply proof/refine/HeapStateRelation.thy]: `elim` matches major premise and conclusion simultaneously, so if there is nothing else in the rule, which means that it will solve the goal, then it is safe. For `intro` where it only matches the conclusion, it would not be safe.

File: proof/refine/RISCV64/Detype_R.thy [hunk 24]
```diff
@@ -1707,10 +1732,12 @@ proof (simp add: invs'_def valid_pspace'_def
...
     done
 
-  from vsp show "valid_sched_pointers_2 (pspace' |> tcb_of' |> tcbSchedPrev)
-                                        (pspace' |> tcb_of' |> tcbSchedNext)
-                                        (tcbQueued |< (pspace' |> tcb_of'))
-                                        (tcbInReleaseQueue |< (pspace' |> tcb_of'))"
+  from vsp show "valid_sched_pointers_2
+                   (pspace' |> tcb_of' |> tcbSchedPrev)
+                   (pspace' |> tcb_of' |> tcbSchedNext)
+                   (\<lambda>t. (tcbQueued |< (pspace' |> tcb_of')) t
```
Comment (lsf37) [inline proof/refine/RISCV64/Detype_R.thy:1738]: Are the parentheses for `(pspace' |> tcb_of')` necessary or just added for clarity? If they are necessary, we should probably adjust the syntax so that they are not, because `(P <| f) |> g` never makes sense (by type).

File: proof/refine/RISCV64/SchedContextInv_R.thy [hunk 25]
```diff
@@ -405,25 +406,24 @@ lemma decode_sc_ctrl_inv_corres:
 lemma schedContextBindNtfn_corres:
   "corres dc
      (valid_objs and sc_ntfn_sc_at ((=) None) scp
-      and (obj_at (\<lambda>ko. \<exists>ntfn. ko = Notification ntfn \<and> ntfn_sc ntfn = None) ntfnp)
+      and (obj_at (\<lambda>ko. \<exists>ntfn. ko = kernel_object.Notification ntfn \<and> ntfn_sc ntfn = None) ntfnp)
```
Comment (lsf37) [inline proof/refine/RISCV64/SchedContextInv_R.thy:409]: If this is actually necessary, then this is not a good sign. It means that name space priority has flipped in this PR because of changed theory imports, and that should definitely be avoided. In either case, it should never be `kernel_object`, but always `Structures_A`.

If it had actually flipped, I would expect more change to be necessary, so hopefully this can just be left out. If it can't, we need to find the import that has changed the naming.

File: proof/refine/RISCV64/Ipc_R.thy [hunk 26]
```diff
@@ -2305,68 +2275,257 @@ lemma reply_push_valid_objs:
...
+  and obj_at'_endpoint[wp]: "\<lambda>s. Q (obj_at' (\<lambda>ep. (P :: endpoint \<Rightarrow> bool) ep) epPtr s)"
+  and obj_at'_notification[wp]: "\<lambda>s. Q (obj_at' (\<lambda>ep. (P :: notification \<Rightarrow> bool) ep) epPtr s)"
+  (wp: crunch_wps)
+
+method ipc_append =
+  (rule det_wp_pre no_fail_pre, rule tcb_append_rules, fastforce)[1] | wpsimp
+
+lemma threadGet_rcorres:
+  "(\<And>tcb tcb'. tcb_relation tcb tcb' \<Longrightarrow> rrel (f tcb) (f' tcb'))
+   \<Longrightarrow>rcorres
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]:
```suggestion
   \<Longrightarrow> rcorres
```

File: proof/refine/RISCV64/Ipc_R.thy [hunk 27]
```diff
@@ -5232,381 +4983,479 @@ lemma receiveIPC_corres_helper:
...
+                   then ep_q_refs_of
+                          (case queue of
+                             [] \<Rightarrow> IdleEP
+                           | a # list \<Rightarrow> update_ep_queue
+                                           (SendEP (sender # queue))
+                                           (removeAll sender (ep_queue (SendEP (sender # queue)))) True)
+                   else state_refs_of s p)"
+  apply (erule delta_sym_refs)
+   by (auto simp: ko_at_state_refs_ofD get_refs_def2 pred_tcb_at_def obj_at_def valid_ep_def
+           split: list.splits if_splits)
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]: Does this work or does delta_sym_refs apply to the generated goal again?
```suggestion

   by (auto simp: ko_at_state_refs_ofD get_refs_def2 pred_tcb_at_def obj_at_def valid_ep_def
           elim!: delta_sym_refs
           split: list.splits if_splits)
```

File: proof/refine/RISCV64/Ipc_R.thy [hunk 28]
```diff
@@ -5232,381 +4983,479 @@ lemma receiveIPC_corres_helper:
...
+                  apply (clarsimp simp: eps_of_kh_def obj_at_def opt_map_red)
+                 apply (clarsimp simp: opt_map_def obj_at'_def split: option.splits)
+                apply (clarsimp simp: list_queue_relation_def)
+               apply (rule corres_guard_imp)
+                 apply (rule corres_split[OF tcbEPDequeue_corres], simp, simp)
+                   apply (clarsimp simp: ep_relation_def split: list.splits)
+                   apply (rule corres_split[OF getThreadState_corres])
+                     apply (rule_tac
+                               F="\<exists>data. sender_state
+                                         = Structures_A.thread_state.BlockedOnSend epptr data"
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]:
```suggestion
                                         = Structures_A.BlockedOnSend epptr data"
```

File: proof/refine/RISCV64/Ipc_R.thy [hunk 29]
```diff
@@ -5619,142 +5468,443 @@ lemma as_user_refs_of[wp]:
...
+   apply (simp only: release_queue_relation_def)
+   apply (rule_tac p=release_queue in rcorres_lift_abs)
+    apply (rule_tac p=ksReleaseQueue in rcorres_lift_conc)
+     apply (rcorres rcorres: tcbAppend_rcorres_other rcorres_op_lifts)
+     apply (clarsimp simp: heap_pspace_relation_def not_in_release_q_def)
+     apply (blast dest!: ntfn_queues_release_queue_disjoint)
+    apply wpsimp
+   apply wpsimp
+  by (rcorres_conj_lift \<open>fastforce\<close>
+                        rule: det_wp_tcb_append_set_notification simp: tcbAppend_def)+
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]:
```suggestion
  by (rcorres_conj_lift \<open>fastforce\<close>
                        rule: det_wp_tcb_append_set_notification
                        simp: tcbAppend_def)+
```

File: proof/refine/RISCV64/Ipc_R.thy [hunk 30]
```diff
@@ -5869,119 +6017,86 @@ crunch copyMRs, doIPCTransfer
...
+  "\<lbrace>\<lambda>s. invs' s \<and> tcb_at' tcbPtr s \<and> sched_flag_set s tcbPtr \<and> \<not> is_sched_linked tcbPtr s\<rbrace>
+   tcbNTFNAppend tcbPtr ntfnPtr
    \<lbrace>\<lambda>_. invs'\<rbrace>"
-  apply (simp add: receiveSignal_def doNBRecvFailedTransfer_def valid_idle'_asrt_def)
-  apply (intro bind_wp [OF _ stateAssert_sp])
-  apply (rule bind_wp [OF _ get_ntfn_sp'])
-  apply (rename_tac ep)
-  apply (case_tac "ntfnObj ep"; clarsimp)
+  apply (simp add: invs'_def valid_pspace'_def valid_dom_schedule'_def)
+  by (wpsimp wp: valid_irq_node_lift valid_irq_handlers_lift'' irqs_masked_lift
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]: apply/done

File: proof/refine/RISCV64/Ipc_R.thy [hunk 31]
```diff
@@ -5869,119 +6017,86 @@ crunch copyMRs, doIPCTransfer
...
+           simp: cteCaps_of_def o_def)
+
+lemma tcbEPAppend_invs':
+  "\<lbrace>\<lambda>s. invs' s \<and> tcb_at' tcbPtr s \<and> sched_flag_set s tcbPtr\<rbrace>
+   tcbEPAppend tcbPtr ntfnPtr isRecv
+   \<lbrace>\<lambda>_. invs'\<rbrace>"
+  apply (simp add: invs'_def valid_pspace'_def valid_dom_schedule'_def)
+  by (wpsimp wp: valid_irq_node_lift valid_irq_handlers_lift'' irqs_masked_lift
```
Comment (lsf37) [inline proof/refine/RISCV64/Ipc_R.thy]: apply/done

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 32]
```diff
@@ -212,41 +255,431 @@ lemma setEndpoint_valid_tcbs'[wp]:
...
+  apply (rule rcorres_conj_lift_fwd; (solves wpsimp)?)
+   \<comment> \<open>release_queue_relation\<close>
+   apply (simp only: release_queue_relation_def bind_assoc fun_app_def)
+   apply (rule_tac p=release_queue in rcorres_lift_abs)
+    apply (rule_tac p=ksReleaseQueue in rcorres_lift_conc)
+     apply (rcorres rcorres: tcbQueueRemove_rcorres_other rcorres_op_lifts)
+     apply (blast dest!: ep_queues_release_queue_disjoint)
+    apply wpsimp
+   apply wpsimp
+  by (rcorres_conj_lift \<open>fastforce\<close>)+
```
Comment (lsf37) [inline proof/refine/RISCV64/IpcCancel_R.thy:595]: Should this be apply/done?

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 33]
```diff
@@ -212,41 +255,431 @@ lemma setEndpoint_valid_tcbs'[wp]:
...
+  and ready_qs_distinct[wp]: ready_qs_distinct
+  and release_q_runnable[wp]: release_q_runnable
+  (wp: crunch_wps ready_queues_runnable_lift in_correct_ready_q_lift ready_qs_distinct_lift
+       release_q_runnable_lift)
+
+crunch tcbEPDequeue
+  for valid_objs'[wp]: valid_objs'
+
+lemma valid_ntfn'_ntfnQueue_update[simp]:
+  "valid_obj' (KONotification (ntfnQueue_update (\<lambda>_. q) ntfn)) s
```
Comment (lsf37) [inline proof/refine/RISCV64/IpcCancel_R.thy]: This probably holds as well and should be more general
```suggestion
  "valid_obj' (KONotification (ntfnQueue_update f ntfn)) s
```

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 34]
```diff
@@ -484,6 +1007,8 @@ proof -
 qed
 end
 
+end
```
Comment (lsf37) [inline proof/refine/RISCV64/IpcCancel_R.thy]: Please add a comment what construct is closed by this `end`

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 35]
```diff
@@ -2715,84 +3737,268 @@ crunch if_cond_refill_unblock_check
...
+  (wp: crunch_wps ignore: set_simple_ko)
+
+crunch remove_and_restart_ntfn_queued_thread
+  for ep_queued[wp]: "\<lambda>s. P (ep_queued t s)"
+  (wp: ep_queued_lift)
+
+lemma in_ntfn_queue_at_in_ntfn_queue_at_other:
+  "\<lbrace>\<lambda>s. in_ntfn_queue_at t ntfn_ptr s \<and> t' \<noteq> t\<rbrace>
+   tcb_ntfn_dequeue t' ntfn_ptr
+   \<lbrace>\<lambda>_ s. in_ntfn_queue_at t ntfn_ptr s\<rbrace>"
```
Comment (lsf37) [inline proof/refine/RISCV64/IpcCancel_R.thy:3734]: Should these ASpec properties move up to AInvs? Clearly, they are not needed there at the moment, but they might come in handy in the future. Doesn't have to be now, but the question is if we should tag them with a FIXME: move or not.

File: proof/refine/RISCV64/Reply_R.thy [hunk 36]
```diff
@@ -1527,6 +1394,10 @@ lemma scReply_update_empty_sc_with_reply':
    apply blast
   by simp
 
+lemma takeWhile_taken_P:
+  "x \<in> set (takeWhile P queue) \<Longrightarrow> P x"
```
Comment (lsf37) [inline proof/refine/RISCV64/Reply_R.thy:1399]: tag with FIXME: move

File: proof/refine/Invariants_H.thy [hunk 37]
```diff
@@ -221,47 +221,107 @@ abbreviation tcb_of' :: "kernel_object \<Rightarrow> tcb option" where
...
-abbreviation ntfn_queues_of' :: "kernel_state \<Rightarrow> obj_ref \<rightharpoonup> obj_ref list" where
-  "ntfn_queues_of' s \<equiv> ntfns_of' s ||> ntfnObj ||> ntfnQueue"
+abbreviation ntfnQueues_of :: "kernel_state \<Rightarrow> obj_ref \<rightharpoonup> tcb_queue" where
+  "ntfnQueues_of s \<equiv> ntfns_of' s ||> ntfnQueue"
+
+abbreviation cte_of' :: "kernel_object \<Rightarrow> cte option" where
+  "cte_of' \<equiv> projectKO_opt"
+
+abbreviation ctes_of' :: "kernel_state \<Rightarrow> obj_ref \<rightharpoonup> cte" where
+  "ctes_of' s \<equiv> ksPSpace s |> cte_of'"
```
Comment (lsf37) [inline proof/refine/Invariants_H.thy:315]: This is a dangerous name. We already have `ctes_of`, and I'm not sure they are equivalent, because AFAIR, `ctes_of` also talks about the CTEs inside TCBs and this does not look like it does. Are we using this new `ctes_of'` anywhere? I haven't seen it yet, but I might have missed it. The definition here corresponds to the concept of `real_cte_at`, and it could make sense to have it in isolation, but it would have to be pretty special circumstances.

File: proof/refine/TcbAcc_R.thy [hunk 38]
```diff
@@ -2141,349 +1804,1218 @@ lemma threadSet_prev_queue_head_other:
...
-                 split: if_splits)
+lemma tcbQueuePrepend_rcorres_other:
+  "rcorres
+     (\<lambda>_ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+             \<and> (\<exists>ts'. list_queue_relation ts' q' (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+                      \<and> t' \<notin> set ts \<and> set ts \<inter> set ts' = {}))
+     (return ts') (tcbQueuePrepend q' t')
+     (\<lambda>ts' q' _ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s'))"
+  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
+  unfolding tcbQueuePrepend_def list_queue_relation_def
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]:
```suggestion
  unfolding tcbQueuePrepend_def list_queue_relation_def
  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
```

File: proof/refine/TcbAcc_R.thy [hunk 39]
```diff
@@ -2141,349 +1804,1218 @@ lemma threadSet_prev_queue_head_other:
...
+
+lemma tcbQueueAppend_rcorres_other:
+  "rcorres
+     (\<lambda>_ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+             \<and> (\<exists>ts'. list_queue_relation ts' q' (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+                      \<and> t' \<notin> set ts \<and> set ts \<inter> set ts' = {}))
+     (return ts') (tcbQueueAppend q' t')
+     (\<lambda>ts' q' _ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s'))"
+  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
+  unfolding tcbQueueAppend_def list_queue_relation_def
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]: `unfolding` is not meant to be used in the middle of an apply script. 

```suggestion
  unfolding tcbQueueAppend_def list_queue_relation_def
  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
```

(If you do want to unfold in the middle of an apply script, it should be `apply (unfold ..)`, potentially with `[1]`)

File: proof/refine/TcbAcc_R.thy [hunk 40]
```diff
@@ -2141,349 +1804,1218 @@ lemma threadSet_prev_queue_head_other:
...
+lemma tcbQueueInsert_rcorres_other:
+  "rcorres
+     (\<lambda>_ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+             \<and> sym_heap_sched_pointers s' \<and> t' \<notin> set ts
+             \<and> (\<exists>ts' q'. list_queue_relation ts' q' (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+                         \<and> afterPtr \<in> set ts' \<and> set ts \<inter> set ts' = {}))
+     (return ts') (do _ \<leftarrow> tcbQueueInsert t' afterPtr; return q' od)
+     (\<lambda>ts' q' _ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s'))"
+  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
+  unfolding tcbQueueInsert_def list_queue_relation_def
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy:2282]:
```suggestion
  unfolding tcbQueueInsert_def list_queue_relation_def
  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
```

File: proof/refine/TcbAcc_R.thy [hunk 41]
```diff
@@ -2141,349 +1804,1218 @@ lemma threadSet_prev_queue_head_other:
...
+lemma tcbQueueRemove_rcorres_other:
+  "rcorres
+     (\<lambda>_ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+             \<and> sym_heap_sched_pointers s'
+             \<and> (\<exists>ts'. list_queue_relation ts' q' (tcbSchedNexts_of s') (tcbSchedPrevs_of s')
+                      \<and> t \<in> set ts' \<and> set ts \<inter> set ts' = {}))
+     (return ts') (tcbQueueRemove q' t)
+     (\<lambda>_ _ _ s'. list_queue_relation ts q (tcbSchedNexts_of s') (tcbSchedPrevs_of s'))"
+  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
+  unfolding tcbQueueRemove_def list_queue_relation_def
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]:
```suggestion
  unfolding tcbQueueRemove_def list_queue_relation_def
  apply (rule rcorres_from_valid_det; (solves wpsimp)?)
```

File: proof/refine/TcbAcc_R.thy [hunk 42]
```diff
@@ -2141,349 +1804,1218 @@ lemma threadSet_prev_queue_head_other:
...
+    apply (force simp: img_ord_Some' sorted_wrt_append)
+   apply (fastforce dest: antisympD)
+  apply (prop_tac "afterPtr \<in> set zs")
+   apply (fastforce simp: after)
+  apply (frule split_list[where x=afterPtr])
+  apply clarsimp
+  apply (rename_tac ys' zs')
+  apply (drule_tac x="ys @ beforePtr # ys'" in spec)
+  apply (insert before(3))
+  by (case_tac ys'; force dest!: spec antisympD)
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]: apply/done?

File: proof/refine/TcbAcc_R.thy [hunk 43]
```diff
@@ -2512,14 +3044,350 @@ defs valid_objs'_asrt_def:
...
+  "ep_queues_blocked s \<equiv>
+     \<forall>p q. ep_queues_of s p = Some q \<longrightarrow> (\<forall>t \<in> set q. st_tcb_at (\<lambda>st. ep_blocked st = Some p) t s)"
+
+lemma ep_queues_blocked_lift:
+  assumes "\<And>P. f \<lbrace>\<lambda>s. P (ep_queues_of s)\<rbrace>"
+  assumes "\<And>P t. f \<lbrace>\<lambda>s. st_tcb_at P t s\<rbrace>"
+  shows "f \<lbrace>ep_queues_blocked\<rbrace>"
+  unfolding ep_queues_blocked_def
+  apply (rule hoare_pre)
+   apply (wps | wp assms | wpsimp wp: hoare_vcg_all_lift hoare_vcg_ball_lift hoare_vcg_imp_lift')+
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy:3079]: Would this work? I think that'd be slightly nicer (I'm assuming we need the `pre` for `wps`)
```suggestion
  apply (wp_pre | wps | wp assms | wpsimp wp: hoare_vcg_all_lift hoare_vcg_ball_lift hoare_vcg_imp_lift')+
```

Comment (lsf37) [reply proof/refine/TcbAcc_R.thy:3079]: (If that does work, there are a few more instances of this below)

File: proof/refine/TcbAcc_R.thy [hunk 44]
```diff
@@ -2512,14 +3044,350 @@ defs valid_objs'_asrt_def:
...
+    apply (force simp: ntfn_queues_blocked_def)
+   apply simp
+  apply (rename_tac st, case_tac st; clarsimp simp: ntfn_blocked_def)
+  done
+
+lemma runnable'_not_inIPCQueueThreadState:
+  "st_tcb_at' runnable' t s \<Longrightarrow> \<not> (inIPCQueueThreadState |< tcbStates_of' s) t"
+  apply (clarsimp simp: st_tcb_at'_def obj_at'_def opt_pred_def opt_map_red
+                        inIPCQueueThreadState_def)
+  by (rename_tac tcb, case_tac "tcbState tcb"; clarsimp)
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]: apply/done

File: proof/refine/TcbAcc_R.thy [hunk 45]
```diff
@@ -2512,14 +3044,350 @@ defs valid_objs'_asrt_def:
...
+  for ep_queues_blocked[wp]: ep_queues_blocked
+  and ntfn_queues_blocked[wp]: ntfn_queues_blocked
+  (wp: ep_queues_blocked_lift ntfn_queues_blocked_lift)
+
+lemma set_endpoint_ep_queues_of_other:
+  "\<lbrace>\<lambda>s. P (ep_queues_of s p) \<and> p \<noteq> ep_ptr\<rbrace>
+   set_endpoint ep_ptr ep
+   \<lbrace>\<lambda>_ s. P (ep_queues_of s p)\<rbrace>"
+  apply (wpsimp wp: set_simple_ko_wp)
+  by (clarsimp simp: eps_of_kh_def opt_map_def)
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]:
```suggestion
  by (wpsimp wp: set_simple_ko_wp)
     (clarsimp simp: eps_of_kh_def opt_map_def)
```

(or sometimes moving the clarsimp content into wpsimp also works)

File: proof/refine/TcbAcc_R.thy [hunk 46]
```diff
@@ -2512,14 +3044,350 @@ defs valid_objs'_asrt_def:
...
+
+lemma threadSet_dom_tcbs_of'[wp]:
+  "threadSet f tcbPtr \<lbrace>\<lambda>s. P (dom (tcbs_of' s))\<rbrace>"
+  apply (wpsimp wp: threadSet_wp)
+  by (fastforce elim: rsubst[where P=P] simp: opt_map_def obj_at'_def)
```
Comment (lsf37) [inline proof/refine/TcbAcc_R.thy]: apply/done

File: lib/RCorres.thy (hunk 1 above)
Comment (lsf37) [reply lib/RCorres.thy:499]: It's not so much about wanting to use the method, but understand what is written when you see the method used (and then maybe working from example).

File: proof/refine/RISCV64/Tcb_R.thy [hunk 47]
```diff
@@ -778,132 +724,546 @@ lemma setPriority_invs'[wp]:
   apply (fastforce simp: ready_qs_runnable_def pred_tcb_at'_def obj_at'_def)
   done
 
-lemma tcb_ep_dequeue_distinct:
-  "\<lbrace>\<lambda>_. distinct q\<rbrace> tcb_ep_dequeue t q \<lbrace>\<lambda>q' _. distinct q'\<rbrace>"
-  by (wpsimp simp: tcb_ep_dequeue_def)
+lemma sym_ref_BlockedOnNotification_WaitingNtfn:
+  "\<lbrakk>kheap s tp = Some (TCB tcb); sym_refs (state_refs_of s);
+    tcb_state tcb = Structures_A.BlockedOnNotification ntfn_ptr\<rbrakk> \<Longrightarrow>
+   \<exists>notification list. kheap s ntfn_ptr = Some (Structures_A.Notification notification)
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy:730]: Are the qualifiers necessary? I know they are used a lot in Refine, but that is mostly because Isabelle echoes them when there is a potential conflict. For a human reader, in lemmas like this it is pretty clear from context that it is the abstract side, and abstract names should have priority.

```suggestion
    tcb_state tcb = BlockedOnNotification ntfn_ptr\<rbrakk> \<Longrightarrow>
   \<exists>notification list. kheap s ntfn_ptr = Some (Notification notification)
```

File: proof/refine/RISCV64/Tcb_R.thy [hunk 48]
```diff
@@ -778,132 +724,546 @@ lemma setPriority_invs'[wp]:
...
+   apply (clarsimp simp: obj_at_def, simp)
+  apply (clarsimp simp: state_refs_of_def)
+  apply (drule_tac x="(ntfn_ptr, TCBSignal)" in bspec)
+   apply (fastforce split: if_split_asm)
+  apply (clarsimp simp: obj_at_def)
+  apply (rename_tac ko'; case_tac ko'; clarsimp simp: ntfn_q_refs_of_def get_refs_def2)
+  apply (rename_tac ntfn; case_tac ntfn; simp split: ntfn.splits)
+  done
+
+lemma threadRead_tcb_at'_eq:
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy]: I'd flag this for a `FIXME: move next to threadRead_tcb_at'`

File: proof/refine/RISCV64/Tcb_R.thy [hunk 49]
```diff
@@ -778,132 +724,546 @@ lemma setPriority_invs'[wp]:
...
-  apply clarsimp
-  done
+   apply (rename_tac tcb, case_tac "tcb_state tcb"; clarsimp)
+    apply (fastforce dest: sym_ref_BlockedOnReceive_RecvEP)
+   apply (fastforce dest: sym_ref_BlockedOnSend_SendEP)
+  apply (rule corres_underlying_lift_ex1[simplified pred_conj_comm])
+  apply (rename_tac list)
+  apply (rule_tac Q="\<lambda>s. valid_ep ep s
+                         \<and> ep_queues_of s ep_ptr = Some list
+                         \<and> (\<forall>t' \<in> set list. tcb_at t' s
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy:1131]: `xs` would the canonical name for a list. `list` is what comes out of the datatype name in Isabelle and doesn't really fit the naming conventions.

Comment (lsf37) [reply proof/refine/RISCV64/Tcb_R.thy:1131]: In this case, I'd say `ts` (for threads) or even `queue`, although that also doesn't fit the naming convention. But at least later in the proof we'd know what kind of list it is.

File: proof/refine/RISCV64/Tcb_R.thy [hunk 50]
```diff
@@ -937,7 +1297,7 @@ lemma threadSet_not_queued_corres:
     \<And>tcb'. tcbSchedPrev (F tcb') = tcbSchedPrev tcb';
     \<And>tcb'. tcbQueued (F tcb') = tcbQueued tcb';
     \<And>tcb'. tcbInReleaseQueue (F tcb') = tcbInReleaseQueue tcb';
-    \<And>tcb. \<forall>(getF, v) \<in> ran tcb_cap_cases. getF (f tcb) = getF tcb;
+    \<And>tcb. \<forall>(getF, v)\<in>ran tcb_cap_cases. getF (f tcb) = getF tcb;
     \<And>tcb'. \<forall>(getF, v)\<in>ran tcb_cte_cases. getF (F tcb') = getF tcb'\<rbrakk>
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy]: I think the standard is actually with space. At least Raf always tells me to fix my operator spacing when I don't use it :-)

File: proof/refine/RISCV64/Tcb_R.thy [hunk 51]
```diff
@@ -1537,7 +1889,7 @@ where
              = (tcb_at' t and ex_nonz_cap_to' t
                   and (case ntfn of None \<Rightarrow> \<top>
                           | Some ntfnptr \<Rightarrow> obj_at' (\<lambda>ko. ntfnBoundTCB ko = None
-                                           \<and> (\<forall>q. ntfnObj ko \<noteq> WaitingNtfn q)) ntfnptr
+                                           \<and> (ntfnState ko \<noteq> Waiting)) ntfnptr
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy]: The indent looks off of the `ob_at'` condition. If it doesn't fit, I'd add a line break before `obj_at`

**Review by lsf37 — APPROVED** [review]
A truly massive amount of work, I'm impressed. I'm glad we (well, you :-)) did this and CRefine is now as boring as it should be. You were right that this would have been extremely painful to do in CRefine (and multiple times for multiple queue types).

I only have cosmetic comments, the content looks very solid to me and it is much easier to follow than it would have been on the C level.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 5 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: The comment doesn't have to mirror `valid_ntfn'` precisely (although it's probably roughly those concepts). It is true that comments need to be updated with change, but the Haskell code is the main documentation source for the code, so if we have code comments, this is where they should be. Most other kernel object types do not actually have many of these internal consistency conditions, because we are usually trying to express these by type. Here we have chosen to more closely mirror the C where the object can have internally inconsistent states, so we want to a) call that out and b) document what we expect for internal consistency.

File: proof/refine/RISCV64/ArchHeapStateRelation.thy (hunk 11 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelation.thy:37]: This is one of these "too hard to decide, because it's not really that important" things. Let's leave it as is unless others have strong opinions about it.

File: proof/refine/RISCV64/ArchHeapStateRelation.thy (hunk 12 above)
Comment (lsf37) [reply proof/refine/RISCV64/ArchHeapStateRelation.thy]: You're right about `userData_at` and `userDataDevice_at`, and for arch split I don't think it matters which one we choose. In that case, we can probably remove the comment.

File: lib/RCorres.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/RCorres.thy:499]: OK, then I'm really not so sure. This `rule: ` bit here is for what we might call "side-conditions", so maybe we could do something a bit out of the ordinary like `side: `?

File: proof/refine/HeapStateRelation.thy (hunk 19 above)
Comment (michaelmcinerney) [reply proof/refine/HeapStateRelation.thy]: Good idea, I'll go with that, thanks.

File: proof/refine/KHeap_R.thy (hunk 20 above)
Comment (michaelmcinerney) [reply proof/refine/KHeap_R.thy]: Yes, probably. I'll change this and see what happens. Thanks.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 32 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy:595]: These final `rcorres_conj_lift` steps churn through the last dozen or so conjuncts in `state_relation` and do take a while. The `rule: ` bit that we've been discussing sometimes does speed them up quite a lot, but they're not super fast.

File: proof/refine/Invariants_H.thy (hunk 37 above)
Comment (michaelmcinerney) [reply proof/refine/Invariants_H.thy:315]: I think this is currently used only in `caps_relation` and the associated lifting rule, just to get the heap version of `pspace_relation`. So again I don't really care about the name or its definition or anything. I'm happy to change it to whatever you'd like. It does seem a bit odd that just going by the name of the kernel object could cause confusion or be dangerous.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 48 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy]: I can move this now.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 50 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy]: I think Isabelle prints this without the space, so I'm never sure. I prefer with the space, personally, but I often default to what Isabelle does if I'm not sure. But I can change it.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 49 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy:1131]: I think I called this `list` because it's the "list" of `list_queue_relation`. In the definition of `ep_queues_relation`, I use `ls` as the name of the green variable for the Isabelle list. Is `ls` bad there too and should I use `ts` instead?

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 35 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy:3734]: I suppose we could move them to AInvs, but since these properties are used only in Refine, we could get into the annoying situation where we want to modify the properties for a proof in Refine, but the definition is in AInvs, which is a lot of back and forth. Maybe if we think that the definitions are solid and the rules we have are good, it would be harmless to move.

I also have `ep_queues_blocked`, `ntfn_queues_blocked`, `ready_qs_runnable`, and `release_q_runnable` that are also ASpec properties and are similar in being used only in Refine. These are all pared down versions of other invariants (namely `sym_refs` and `valid_ready/release_q(s)`). My strong preference is for large invariants to be conjunctions of smaller invariants, and for large invariants to be proved by proving invariance of the smaller invariants wherever possible. If we did want to do something like that for `sym_refs` or `valid_ready/release_q(s)`, then we'd definitely want to move these new ones to AInvs. (My aborted attempt at `sym_heaps` was exactly this. I still think it's a good idea, though it'll take a fair bit of work for it to become nice to work with.)

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 6 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: I did make these changes, but now I'm getting a clash of names with the name produced automatically in `spec/design/Structures_H.thy`. I guess this is why they were called `isSend` and `isRecv` to begin with. Maybe we could stick with `isSend` and `isRecv` and then go with `isBlockedOnNtfn` rather than the `isBlockedOnNotification`. Or is there a way to suppress some of these definitions being produced automatically?

File: proof/refine/RISCV64/SchedContextInv_R.thy (hunk 25 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/SchedContextInv_R.thy:409]: It's definitely necessary to write either `kernel_object.` or `Structures_A.` to get the aspec level one. I think this is similar to what we've had for `Structures_A.kernel_object` and `thread_state` before, so it doesn't seem unusual to me. But I'll go with `Structures_A.` everywhere it's necessary.

File: proof/refine/TcbAcc_R.thy (hunk 43 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy:3079]: Doesn't work, unfortunately.

File: proof/refine/RISCV64/Detype_R.thy (hunk 24 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Detype_R.thy:1738]: These parentheses are necessary. Could we adjust the syntax after this PR is merged?

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: I was able to remove this block, and consolidated a couple small `interpertation` blocks for `emptySlot` into one. I adjusted things a little bit further down in the file, too. 

I was also able to remove some lemmas for `suspend` from the `delete_one` or `delete_one_conc` locales, but I could put these changes in a separate commit if you'd like.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 27 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy]: Yep, this works, thanks.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 47 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy:730]: These qualifiers are necessary. Not sure what's going on here if something is going wrong.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 51 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy]: I've rejiggered this a fair bit and it's a bit ugly but at least legible.

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 52]
```diff
@@ -346,11 +340,11 @@ crunch updateNotification
 
 lemma set_endpoint_aobjs_of[wp]:
   "set_endpoint ep_ptr ep \<lbrace>\<lambda>s. P (aobjs_of s)\<rbrace>"
-  by set_simple_ko_heaps_inv
+  by (set_simple_ko_heaps_inv)
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/IpcCancel_R.thy:343]: I added a `simp: ` argument to this little method, then removed it. And left behind these parentheses. I'll remove them.

File: lib/RCorres.thy (hunk 1 above)
Comment (lsf37) [reply lib/RCorres.thy:499]: As a user that still doesn't tell me in which kind of context these rules are going to be applied. Is it correct that they are all about side conditions for `rcorres_lift` rules? Maybe something in that direction, but we'd need to be careful to not make it sound like we're supplying the actual lifting rule there (unless we do).

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 6 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: Right, that is annoying. Those automatic declarations were supposed to help not produce noise. Let's stick with the `isSend` and `isRecv`, and I like `isBlockedOnNtfn`. The "real" fix would be to make the Haskell generator suppress the other definitions, but I don't think we should try that here.

File: proof/refine/RISCV64/Detype_R.thy (hunk 24 above)
Comment (lsf37) [reply proof/refine/RISCV64/Detype_R.thy:1738]: Yes, that's fine. Can you make an issue for it?

File: proof/refine/RISCV64/SchedContextInv_R.thy (hunk 25 above)
Comment (lsf37) [reply proof/refine/RISCV64/SchedContextInv_R.thy:409]: But it wasn't necessary before, right? The line changes `Notification` to `kernel_object.Notification` which indicates that something as changed in how the names are processed, if a bare `Notification` was fine before. This is majorly bad. Have we changed the theory import structure anywhere?

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 34 above)
Comment (lsf37) [reply proof/refine/RISCV64/IpcCancel_R.thy]: Would be fine to leave inside this commit, it'd just be good to know what `end` closes if it comes after a longer block of things, because there is no indentation for context/locale etc that would tell us.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 35 above)
Comment (lsf37) [reply proof/refine/RISCV64/IpcCancel_R.thy:3734]: Yeah, I'm not sure either. Especially the having to jump back and forth between sessions aspect could be very annoying when we ever want to tweak anything. That is a good argument for leaving it.

File: lib/RCorres.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/RCorres.thy:499]: Yes these will all be side conditions for `rcorres_lift` rules, and so will be either a `det_wp`, `no_fail`, or `empty_fail` rule about the abstract function in the `rcorres` statement. I think `side: ` or something else unusual will be a good prompt for people to look into the details, but still not sure.

File: proof/refine/RISCV64/Detype_R.thy (hunk 24 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Detype_R.thy:1738]: Yep, will do.

File: proof/refine/Invariants_H.thy (hunk 37 above)
Comment (lsf37) [reply proof/refine/Invariants_H.thy:315]: That's because this kernel object is special -- it does precisely not induce its own heap in the same way the others do, at least not in the way the kernel actually uses these objects, because CTEs do not only occur directly in kheap, but also as part of TCBs. That does not happen for any other kernel object.

It works for the state relation, because you can still assert cap_relation separately for each tcb slot (which is what it does), but the rest of the proofs needs a unified TCB/CNode space of CTEs. So adding another CTE heap that only has the CNode space with a name that is practically the same as the existing unified one is asking for trouble.

Concretely I would call this one `cnode_ctes_of'` (prime so that we can do the same on ASpec at some point if we later want to).

File: proof/refine/RISCV64/Tcb_R.thy (hunk 47 above)
Comment (lsf37) [reply proof/refine/RISCV64/Tcb_R.thy:730]: We should investigate what is going on there and what naming scheme we want. I worry that we have accidentally flipped it (maybe not even in this PR), and that will just create a mess where eventually everything is qualified.

File: proof/refine/RISCV64/SchedContextInv_R.thy (hunk 25 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/SchedContextInv_R.thy:409]: I haven't opened up the current version of `rt` to see exactly what Isabelle produces, and this branch is still processing things at the moment, but I think the change comes from the definition of the `Notification` type in the Haskell:

```
data Notification = NTFN {
```

is what we had before, and I changed the name of the record or whatever it is (the RHS here) to `Notification`. Should I change it back? It's confusing because `NTFN` was used for the notification object which is just the idle/active/waiting data structure and doesn't contain the linked TCB/sc. Now there's no separate data structure in the Haskell and it's just one big thing.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 49 above)
Comment (lsf37) [reply proof/refine/RISCV64/Tcb_R.thy:1131]: `ls` is uncommon, but acceptable. `list` is not a good name. The `s` is what signifies a list, `l` or `list` should not be used for that, because that gives you only precisely one list you can use at a time and then you've already run out of names and need `'` or something else.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 34 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: Sure, I think I touch only one `end` statement in this theory file now, and it has a comment with it. Let me know if it's OK.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 50 above)
Comment (lsf37) [reply proof/refine/RISCV64/Tcb_R.thy]: Isabelle print does print spaces for `a \in A` (it takes extra work to not make it print spaces for operators so it is very uncommon for there not to be a space in output)

Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy]: I've just double checked, and Isabelle will print a space for `member`, but won't print a space for `Ball`, the bounded universal quantifier.

File: proof/refine/RISCV64/Detype_R.thy (hunk 24 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Detype_R.thy:1738]: https://github.com/seL4/l4v/issues/988

**Comment by corlewis** [comment]
Commit message typo: in the second commit third paragraph, there is an extra "the" in "for the these two new predicates"

File: lib/RCorres.thy [hunk 53]
```diff
@@ -369,8 +375,18 @@ lemma rcorres_allI_fwd:
   apply (fastforce intro!: rcorres_weaken_pre[OF rcorres_allI])
   done
 
+lemma rcorres_exI[rcorres_op_lifts]:
+  "rcorres R f f' (\<lambda>rv rv' s s'. R' (x rv rv' s s') rv rv' s s')
+   \<Longrightarrow> rcorres R f f' (\<lambda>rv rv' s s'. \<exists>x. R' x rv rv' s s')"
```
Comment (corlewis) [inline lib/RCorres.thy:380]: `x` shouldn't need all of the arguments should it?
```suggestion
lemma rcorres_exI[rcorres_op_lifts]:
  "rcorres R f f' (\<lambda>rv rv' s s'. R' x rv rv' s s')
   \<Longrightarrow> rcorres R f f' (\<lambda>rv rv' s s'. \<exists>x. R' x rv rv' s s')"
```

File: lib/RCorres.thy [hunk 54]
```diff
@@ -369,8 +375,18 @@ lemma rcorres_allI_fwd:
...
+  by (fastforce simp: rcorres_def)
+
+lemma rcorres_exI_abs_rv:
+  "rcorres R f f' (\<lambda>rv rv' s s'. R' rv rv rv' s s')
+   \<Longrightarrow> rcorres R f f' (\<lambda>rv rv' s s'. \<exists>x. R' x rv rv' s s')"
```
Comment (corlewis) [inline lib/RCorres.thy:385]: This is an instantiation of `rcorres_exI` isn't it? Does it need to be its own lemma?

Comment (michaelmcinerney) [reply lib/RCorres.thy:385]: I can get this lemma as `rcorres_exI[where x="λrv rv' s s'. rv"]`, so I could write that instead, if that's preferable. Though I know that sometimes people do prefer the lemma written out in full so that it can be more easily seen.

As to whether it should be its own lemma, I don't see the harm in it being there, but it can be removed.

And as to whether the `x` in `rcorres_exI` needs the arguments that I have written in, I don't actually use `rcorres_exI` directly in these proofs, and use `rcorres_exI_abs_rv` only twice, once in `reorderNtfn_corres` and then in `reorderEp_corres`, and it's used within an `rcorres` method. I can't get this step to work with just the version of `rcorres_exI` that doesn't have the arguments listed. If someone can figure this out, I'd be happy to go with the version without the arguments.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 55]
```diff
@@ -280,44 +269,56 @@ If an endpoint is deleted, then every pending IPC operation using it must be can
...
 >                 return ()
 >             _ -> do
->                 assert (distinct (epQueue ep)) "the endpoint queue of ep must be a list of distinct pointers"
->                 setEndpoint epptr IdleEP
->                 forM_ (epQueue ep) (\t -> cancelAllIPC_loop_body t)
+>                 let q = epQueue ep
+>                 stateAssert (tcb_queue_head_end_valid_asrt q) ""
+>                 whileLoop (\ptrOpt -> const (ptrOpt /= Nothing))
+>                           (\ptrOpt -> do
+>                                assert (ptrOpt /= Nothing) "the option type must not be Nothing"
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: Not a big deal if it makes the proofs easier, but shouldn't we be able to get this assertion for free from the loop condition?

File: lib/RCorres.thy (hunk 54 above)
Comment (corlewis) [reply lib/RCorres.thy:385]: Ah, I wasn't thinking correctly about what is happening here. You're right, it is more general than without the arguments. I guess we never needed it but we could do the same with `hoare_exI` and similar `valid` lemmas.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 55 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: You're right, we do get this assertion for free, and it won't help the proofs at all. I put it in just to make sure that the loop body is well-defined and we're not doing anything that might lead to undefined behaviour, like doing `fromJust Nothing`, without having to rely on the fact that the loop condition is true whenever the loop body is executed. If this is bad style or bad for some other reason, I can easily remove it.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 56]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>                     ptrOpt <- findInsertionPoint val (tcbQueueHead q) f r
+>                     assert (ptrOpt /= Nothing) "the pointer found must not be Nothing"
+>                     ptr <- return $ fromJust ptrOpt
+>                     stateAssert (insertionPoint_asrt q ptr) ""
+>                     tcbQueueInsert t ptr
+>                     return q
 
 > tcbReleaseEnqueue :: PPtr TCB -> Kernel ()
 > tcbReleaseEnqueue tcbPtr = do
+
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: This newline looks unintended

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 57]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>         "tcbPtr must not have the tcbQueued flag set"
 >     stateAssert ksReadyQueues_asrt ""
 >     stateAssert ksReleaseQueue_asrt ""
 >     stateAssert valid_objs'_asrt "`valid_objs'`"
 >     runnable <- isRunnable tcbPtr
 >     assert runnable "thread must be runnable"
 >     tcb <- getObject tcbPtr
 >     assert (tcbInReleaseQueue tcb == False) "tcbPtr must not already be in the release queue"
->     newTime <- getTCBReadyTime tcbPtr
+
```
Comment (corlewis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs:890]: This newline is possibly unintended?

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:890]: These aren't really doing much interesting at all, of course, but the newlines do separate the comically large portion of the function that's just asserting stuff, from the bit that actually does stuff. As always, can be removed.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 55 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: I'd be curious to get other opinions but I'd be leaning towards removing it, since otherwise I think I'd have the same reaction every time I come across this in the future. Removing it might also avoid some trivial steps in `Refine` and `CRefine` handling the assertion?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 57 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs:890]: Right, I thought something like that might be the case for this one but I'd prefer to remove the one at the start of the function.

File: proof/refine/Invariants_H.thy [hunk 58]
```diff
@@ -969,6 +1009,15 @@ fun runnable' :: "thread_state \<Rightarrow> bool" where
 definition inQ :: "domain \<Rightarrow> priority \<Rightarrow> tcb \<Rightarrow> bool" where
   "inQ d p tcb \<equiv> tcbQueued tcb \<and> tcbPriority tcb = p \<and> tcbDomain tcb = d"
 
+lemma inQ_lift:
+  "(\<And>P d p. \<lbrace>\<lambda>s. P (inQ d p |< tcbs_of' s) \<and> Q s\<rbrace> f \<lbrace>\<lambda>_ s. P (inQ d p |< tcbs_of' s)\<rbrace>)
+   \<Longrightarrow> (\<And>P. \<lbrace>\<lambda>s. P (\<lambda>d p. inQ d p |< tcbs_of' s) \<and> Q s\<rbrace> f \<lbrace>\<lambda>_ s. P (\<lambda>d p. inQ d p |< tcbs_of' s)\<rbrace>)"
```
Comment (corlewis) [inline proof/refine/Invariants_H.thy:1014]: This looks like a pretty unusual lifting rule to me. How is it used?

Comment (michaelmcinerney) [reply proof/refine/Invariants_H.thy:1014]: `ready_queues_relation` uses the heap `λd p. inQ d p |< tcbs_of' s'` in its definition, and this rule is used again only once in `ready_queues_relation_lift`, where instead of requiring that `λs'. P (λd p. inQ d p |< tcbs_of' s')` is preserved by the concrete function, I require `λs'. P (inQ d p |< tcbs_of' s')`. I think I wanted this form because it was what was normally `crunch`ed, or something.

File: lib/RCorres.thy (hunk 1 above)
Comment (Xaphiosis) [reply lib/RCorres.thy]: Given that this is the rule equivalent of "misc", it doesn't seem possible to nail down a good name. However, I also don't like the generic `rule` for a set of rules that initially looks arbitrary. When I wrote tactics like this, the side-goal wiper ends up being something like `solves_tac`, which isn't that much better. So I second the vote for `intro`.

File: lib/RCorres.thy (hunk 54 above)
Comment (Xaphiosis) [reply lib/RCorres.thy:385]: I think this one is ok to keep as a separate version, and short enough to spell out.
@michaelmcinerney can you remind me why you chose `x` for that parameter? It's a function from return values and states, and we don't normally use `x` for functions.

Comment (michaelmcinerney) [reply lib/RCorres.thy:385]: I chose `x` in analogy with what's done in `hoare_exI`, which as Corey points out, could also be generalised by adding arguments, similar to what I've done here. Most of the time with `rcorres`, if the rule is at all like its cousin in `valid`-land, I'll try to name it similarly and emphasise whatever connections there are, if appropriate.

File: proof/refine/StateRelationPre.thy [hunk 59]
```diff
@@ -25,4 +25,13 @@ text \<open>
 type_synonym obj_relation_cut = "Structures_A.kernel_object \<Rightarrow> Structures_H.kernel_object \<Rightarrow> bool"
 type_synonym obj_relation_cuts = "(machine_word \<times> obj_relation_cut) set"
 
+text \<open>
+  An analogue of cmap_relation in CRefine, used to formulate predicates stating that all kernel
+  objects of some type are in a particular relation. Applies where for every abstract kernel
+  object, there is exactly one associated concrete kernel object.\<close>
+definition map_relation :: "(obj_ref \<rightharpoonup> 'a) \<Rightarrow> (obj_ref \<rightharpoonup> 'b) \<Rightarrow> ('a \<Rightarrow> 'b \<Rightarrow> bool) \<Rightarrow> bool" where
```
Comment (corlewis) [inline proof/refine/StateRelationPre.thy:32]: Thank you, very helpful comment!

File: spec/haskell/src/SEL4/Model/StateData.lhs [hunk 60]
```diff
@@ -582,12 +613,75 @@ An assert that will say that sch_act_simple holds
...
+> pspace_aligned'_asrt _ = True
+
+An assert that will say that pspace_distinct' holds
+
+> pspace_distinct'_asrt :: KernelState -> Bool
+> pspace_distinct'_asrt _ = True
+
+An assert that will say that valid_bound_ep' holds
+
+> valid_bound_ep'_asrt :: Maybe (PPtr Endpoint) -> KernelState -> Bool
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Model/StateData.lhs]: Remind me, how come these all take a `Maybe`?

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Model/StateData.lhs]: These all say "if given `None`, then `True`, else if given `Some ptr`, there is an object of some type at `ptr`"

File: proof/refine/RISCV64/ArchStateRelation.thy [hunk 61]
```diff
@@ -55,7 +55,10 @@ definition pte_relation :: "pt_index \<Rightarrow> Structures_A.kernel_object \<
  "pte_relation y \<equiv> \<lambda>ko ko'. \<exists>pt pte. ko = ArchObj (PageTable pt) \<and> ko' = KOArch (KOPTE pte)
                                       \<and> pte_relation' (pt y) pte"
 
-(* this is the arch version of other_obj_relation *)
+\<comment> \<open>
+  A pair of objects @{term "(obj, obj')"} should satisfy the following relation when, under further
+  mild assumptions, a @{term corres_underlying} lemma for @{term "set_object obj"}
+  and @{term "setObject obj'"} can be stated: see setObject_other_arch_corres in ArchKHeap_R.\<close>
 definition other_aobj_relation ::
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchStateRelation.thy:62]: Oh, I was a bit confused by this comment until I realised that it's based on the one before `other_obj_relation`. It might help to still have that link back to the generic version?

Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchStateRelation.thy:62]: The generic version is gone! No more! Now that endpoint and notification objects have the linked lists, there are no simple generic kernel objects, so I got rid of `other_obj_relation`.

File: proof/refine/StateRelation.thy [hunk 62]
```diff
@@ -89,17 +89,17 @@ definition cte_relation :: "cap_ref \<Rightarrow> obj_relation_cut" where
...
-        Structures_A.IdleNtfn      \<Rightarrow> ntfnObj ntfn' = Structures_H.IdleNtfn
-      | Structures_A.WaitingNtfn q \<Rightarrow> ntfnObj ntfn' = Structures_H.WaitingNtfn q
-      | Structures_A.ActiveNtfn b  \<Rightarrow> ntfnObj ntfn' = Structures_H.ActiveNtfn b)
-                                      \<and> ntfn_bound_tcb ntfn = ntfnBoundTCB ntfn'
-                                      \<and> ntfn_sc ntfn = ntfnSc ntfn'"
+        Structures_A.IdleNtfn      \<Rightarrow> ntfnState ntfn' = IdleNtfnState
+      | Structures_A.WaitingNtfn q \<Rightarrow> ntfnState ntfn' = Waiting
+      | Structures_A.ActiveNtfn w  \<Rightarrow> ntfnState ntfn' = Active \<and> ntfnMsgIdentifier ntfn' = Some w)
+     \<and> ntfn_bound_tcb ntfn = ntfnBoundTCB ntfn'
+     \<and> ntfn_sc ntfn = ntfnSc ntfn'"
```
Comment (corlewis) [inline proof/refine/StateRelation.thy:96]: Wow, thank you for fixing the indentation of these, the previous version was very confusing!

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 63]
```diff
@@ -274,29 +269,21 @@ list of pointers to waiting threads;
...
+>     | Active -- active, ready to deliver a notification message consisting of one data word and one message identifier word
+>     | Waiting -- waiting for one or more send operations to complete
+>     deriving (Show, Eq)
 
-> data Notification = NTFN {
->     ntfnObj :: NTFN,
+> data Notification = Notification {
+>     ntfnState :: NTFNState,
+>     ntfnQueue :: TcbQueue, -- the queue will be nonempty if and only if the state is Waiting
+>     ntfnMsgIdentifier :: Maybe Word, -- will be not Nothing if and only if the state is Active
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Structures.lhs]: not Nothing -> Just?

File: proof/refine/StateRelation.thy (hunk 62 above)
Comment (michaelmcinerney) [reply proof/refine/StateRelation.thy:96]: You're welcome. Fixing indentation is what I was born to do.

File: proof/refine/RISCV64/ArchStateRelation.thy (hunk 61 above)
Comment (corlewis) [reply proof/refine/RISCV64/ArchStateRelation.thy:62]: Oh, very nice! I hadn't seen that yet because I'm going through the files in import order.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 63 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: I was going to write that, but then I thought I'd have to say "Just word for some word" which got a bit verbose. But I'm happy with either. Maybe we can put this one (like a lot of the other comments in this PR) to a vote.

File: proof/refine/StateRelation.thy [hunk 64]
```diff
@@ -404,6 +393,34 @@ abbreviation release_queue_relation :: "det_state \<Rightarrow> kernel_state \<R
...
+       (ep_queues_of s) (epQueues_of s') (tcbSchedNexts_of s') (tcbSchedPrevs_of s')"
+
+lemmas ep_queues_relation_def = ep_queues_relation_2_def
+
+definition ntfn_queues_relation_2 ::
+  "(obj_ref \<rightharpoonup> obj_ref list) \<Rightarrow> (obj_ref \<rightharpoonup> tcb_queue) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref) \<Rightarrow> (obj_ref \<rightharpoonup> obj_ref)
+   \<Rightarrow> bool"
+  where
+  "ntfn_queues_relation_2 ntfn_qs ntfnQs nexts prevs \<equiv>
+     \<forall>p ls q. ntfn_qs p = Some ls \<longrightarrow> ntfnQs p = Some q \<longrightarrow> list_queue_relation ls q nexts prevs"
```
Comment (corlewis) [inline proof/refine/StateRelation.thy:415]: It might end up making things more opaque, but `ep_queues_relation_2` and `ntfn_queues_relation_2` look exactly the same. Should there be another layer making use of that?

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 63 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: Also, I have to ask: there's a school of programming that suggests "correct by construction" data types, where you can't construct something that isn't valid, which is what appears to have been attempted originally. By refactoring things in this manner, you gain uniformity, but lose correctness by construction and hence have these comments.

Could you clarify why doing it this way is better? You now have a queue in all states, but it only has meaning in one, and you have the message identifier in all states, but it only has meaning in one of them. On paper, it does not look like this refactoring is an improvement. It would make more sense if you had factored something common out of both notifications and endpoints, but that does not seem to be the case.

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 65]
```diff
@@ -173,28 +173,23 @@ When stored in the physical memory model (described in \autoref{sec:model.pspace
...
-\item or waiting for one or more send operations to complete, with a
-list of pointers to waiting threads;
+A synchronous endpoint consists of a state, together with a value of type TcbQueue that
+indicates the head and end of the endpoint queue of threads that are waiting;
+the full queue is obtained by starting at the head and following the tcbSchedNext pointers.
 
->         | SendEP { epQueue :: [PPtr TCB] }
+> data Endpoint = Endpoint {
+>     epState :: EPState,
+>     epQueue :: TcbQueue }
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Structures.lhs]: same question regarding correctness by construction as with notifications: the queue only makes sense when the endpoint isn't idle.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 66]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
 
-> getTCBReadyTime :: PPtr TCB -> Kernel Time
-> getTCBReadyTime tcbPtr = getsJust (readTCBReadyTime tcbPtr)
-
-> timeAfter :: Maybe (PPtr TCB) -> Time -> KernelR Bool
-> timeAfter tcbPtrOpt newTime = do
->     if (tcbPtrOpt /= Nothing)
+> compareVals :: Ord b => b -> Maybe (PPtr TCB) -> (PPtr TCB -> KernelR b) -> (b -> b -> Bool) -> KernelR Bool
+> compareVals val ptrOpt f r = do
+>     if (ptrOpt /= Nothing)
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: why not do case distinction on ptrOpt, given that you use fromJust below?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 67]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
 >         then do
->           tcbPtr <- return $ fromJust tcbPtrOpt
->           time <- readTCBReadyTime (fromJust tcbPtrOpt)
->           return $ time <= newTime
+>             ptr <- return $ fromJust ptrOpt
+>             val' <- f ptr
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: this is very redundant; `val' <- f (fromJust ptrOpt)`; ptr is never used again?

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 63 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: This came up earlier in the PR review when Gerwin asked me to add comments for the fields in the notification and endpoint objects. We have chosen to make this as close to the C objects as possible. Maybe it wouldn’t be so difficult to keep closer to the old layout where we have the states with constructors. But it would require a lot of changes to the proofs and the C level object relations would be more involved, I think.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 68]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
 >     assert active "the sc must be active"
 >     readReadyTime (fromJust scPtrOpt)
 
-> getTCBReadyTime :: PPtr TCB -> Kernel Time
-> getTCBReadyTime tcbPtr = getsJust (readTCBReadyTime tcbPtr)
-
-> timeAfter :: Maybe (PPtr TCB) -> Time -> KernelR Bool
-> timeAfter tcbPtrOpt newTime = do
->     if (tcbPtrOpt /= Nothing)
+> compareVals :: Ord b => b -> Maybe (PPtr TCB) -> (PPtr TCB -> KernelR b) -> (b -> b -> Bool) -> KernelR Bool
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: I'd like to request a comment on this one; it's not immediately obvious what should be going on and the arguments are dropping to single letters; r is some kind of relation, f is some kind of extraction function, but an overall guiding comment would help here

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: (especially since the `f r` scheme continues in subsequent functions)

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 67 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I can certainly use `case` and streamline this function some more. Its clunky formulation is probably because this function and its backwards version (in the C) are so painful to think about.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 68 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Sure I can write a comment. My hope overall is that this function is really just implementation detail for `orderedInsert` and so we will never need to even think what is happening here. Hopefully no one will really need to think of what’s happening with `orderedInsert` either, now that all the `rcorres` rules have been written for it.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 69]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
->     stateAssert tcbInReleaseQueue_imp_active_sc_tcb_at'_asrt
->         "every thread in the release queue is associated with \
->          an active scheduling context"
->     whileLoop (\afterPtrOpt -> fromJust . runReaderT (timeAfter afterPtrOpt newTime))
->               (\afterPtrOpt -> do
->                   tcb <- getObject (fromJust afterPtrOpt)
->                   return $ tcbSchedNext tcb)
->               tcbPtrOpt
+> findInsertionPoint :: Ord b => b -> Maybe (PPtr TCB) -> (PPtr TCB -> KernelR b) -> (b -> b -> Bool) -> Kernel (Maybe (PPtr TCB))
+> findInsertionPoint val ptrOpt f r =
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: this could also use a comment; as far as I can tell, we're walking through a linked list of TCBs in memory, doing a comparison against a known value until the comparison fails or we run out of list... and if we run out of list, we default to the last value? Something maybe like "Search tcbSchedNext chain from ptrOpt until comparison against val fails or the list ends"?

Also, I'm definitely not a fan of getting rid of the `tcbPtrOpt` naming scheme (same in `compareVals`) and switching to `ptrOpt`. That's ok for the inner loop, but less so for the function arguments. And on top of that there's shadowing between the ptrOpt you pass in, and the ptrOpt you iterate on, requiring staring at the function to figure out what it's doing.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 70]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+> orderedInsert :: Ord b => PPtr TCB -> TcbQueue -> (PPtr TCB -> KernelR b) -> (b -> b -> Bool) -> Kernel TcbQueue
+> orderedInsert t q f r = do
+>     stateAssert sym_heap_sched_pointers_asrt ""
+>     val <- getsJust (f t)
+>     test <- if tcbQueueEmpty q
+>                 then return True
+>                 else do
+>                     assert (tcbQueueHead q /= Nothing) "the head of q cannot be Nothing"
+>                     head <- return $ fromJust $ tcbQueueHead q
+>                     headVal <- getsJust (f head)
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: Is it useful in the refinement to have `head` separate rather than fold the extraction?
Also, does it not follow that if we're on the false branch of `tcbQueueEmpty q` then the head can't be Nothing?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 71]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>                     return (r val headVal && val /= headVal)
+>     if test
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: `test` doesn't inform us of anything until we read the rest of the function, it's not a good name. At least something like `prepend`, then you have `if prepend then <do prepend> else (if <check end> then append else <search/insert>`

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 72]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>         then tcbQueuePrepend q t
+>         else do
+>             assert (tcbQueueHead q /= Nothing) "the head of q cannot be Nothing"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: why have this here when you're just about to check the queue end?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs [hunk 73]
```diff
@@ -818,65 +818,72 @@ This module uses the C preprocessor to select a target architecture.
...
+>             end <- return $ fromJust $ tcbQueueEnd q
+>             endVal <- getsJust (f end)
+>             if r endVal val
+>                 then tcbQueueAppend q t
+>                 else do
+>                     ptrOpt <- findInsertionPoint val (tcbQueueHead q) f r
+>                     assert (ptrOpt /= Nothing) "the pointer found must not be Nothing"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/SchedContext.lhs]: given that the head can't be Nothing, does it follow that findInsertionPoint can't return Nothing? does this mean this is more of a helper, or redundant?

File: proof/refine/KHeap_R.thy [hunk 74]
```diff
@@ -2484,25 +2379,44 @@ lemma setObject_tcb_pspace_no_overlap':
...
 
+lemma get_object_det_wp[wp]:
+  "det_wp (obj_at \<top> ptr) (get_object ptr)"
+  unfolding get_object_def
+  apply wpsimp
+  apply (clarsimp simp: obj_at_def)
+  done
+
+lemma put_det_wp[wp]:
+  "det_wp \<top> (put s)"
```
Comment (corlewis) [inline proof/refine/KHeap_R.thy:2401]: FIXME: move to DetWPLib?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 75]
```diff
@@ -115,28 +123,34 @@ The receiving thread has now completed its blocking operation and can run. If th
...
-> isActive (NTFN (ActiveNtfn _) _ _) = True
-> isActive _ = False
-
 > isTimeoutFault :: Fault -> Bool
 > isTimeoutFault (Timeout _) = True
 > isTimeoutFault _ = False
 
+> receiveIPCBlocked :: Bool -> PPtr TCB -> PPtr Endpoint -> Maybe (PPtr Reply) -> Kernel ()
+> receiveIPCBlocked isBlocking thread epptr replyOpt = do
+>     case isBlocking of
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: um, why case on a bool instead of if?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 76]
```diff
@@ -145,64 +159,46 @@ The IPC receive operation is essentially the same as the send operation, but wit
...
->                           possibleSwitchTo sender
->               SendEP [] -> fail "Send endpoint queue must not be empty"
+>             case epState ep of
+>               IdleEPState -> receiveIPCBlocked isBlocking thread epptr replyOpt
+>               ReceiveEPState -> receiveIPCBlocked isBlocking thread epptr replyOpt
+>               SendEPState -> do
+>                 let q = epQueue ep
+>                 stateAssert (tcb_queue_head_end_valid_asrt q) ""
+>                 assert (not (tcbQueueEmpty q)) "Send endpoint queue must not be empty"
+>                 let sender = fromJust $ tcbQueueHead q
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: thank you for not naming this `t` :)

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 55 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: Given the comment "the option type must not be nothing", and the fact it's redundant, and that it doesn't help the proofs... my vote is for removing it.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 77]
```diff
@@ -280,44 +269,56 @@ If an endpoint is deleted, then every pending IPC operation using it must be can
...
+>                                return next)
+>                           (tcbQueueHead q)
+>                 ep <- getEndpoint epptr
+>                 assert (epState ep == IdleEPState) "the endpoint must now be idle"
 >                 rescheduleRequired
 
 If a badged endpoint is recycled, then cancel every pending send operation using a badge equal to the recycled capability's badge. Receive operations are not affected.
 
+> removeAndRestartBadgedThread :: PPtr TCB -> PPtr Endpoint -> Word -> Kernel ()
+> removeAndRestartBadgedThread t epptr badge = do
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: question: given `t` for the thread pointer (and epptr for the endpoint pointer, yay consistent naming), I'm assuming abstract spec also does `t` here... doesn't that get in the way during refinement? or do we then use `t'` for the corres?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 78]
```diff
@@ -280,44 +269,56 @@ If an endpoint is deleted, then every pending IPC operation using it must be can
...
->             setEndpoint epptr ep'
+>     case epState ep of
+>         IdleEPState -> return ()
+>         ReceiveEPState -> return ()
+>         SendEPState -> do
+>             let q = epQueue ep
+>             stateAssert (tcb_queue_head_end_valid_asrt q) ""
+>             whileLoop (\ptrOpt -> const (ptrOpt /= Nothing))
+>                       (\ptrOpt -> do
+>                            assert (ptrOpt /= Nothing) "the option type must not be Nothing"
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: does this one fall under Corey's redundancy observation too?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs [hunk 79]
```diff
@@ -343,23 +349,31 @@ The following two functions are specialisations of "getObject" and
...
->         _ -> fail "getEpQueue: endpoint must not be idle"
-
-> updateEpQueue :: Endpoint -> [PPtr TCB] -> Endpoint
-> updateEpQueue (RecvEP _) q' = RecvEP q'
-> updateEpQueue (SendEP _) q' = SendEP q'
-> updateEpQueue _ _ = IdleEP
+> tcbEPDequeue :: PPtr TCB -> PPtr Endpoint -> Kernel ()
+> tcbEPDequeue tcbPtr epPtr = do
+>     ep <- getEndpoint epPtr
+>     q' <- tcbQueueRemove (epQueue ep) tcbPtr
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Endpoint.lhs]: why `q'` when there is no `q`?

File: proof/refine/StateRelation.thy (hunk 64 above)
Comment (michaelmcinerney) [reply proof/refine/StateRelation.thy:415]: Not sure about this one. I don't think having a template would help make the proofs more uniform or anything, and I don't think the template would work for the ready and release queue relations. So maybe it would make things more opaque.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 77 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: Looking around the codebase, these really should be `tcbPtr` and `epPtr`. I don't know when the trend started to dropping the local naming style. I'm guessing you didn't start it, but it kind of stands out.

File: spec/haskell/src/SEL4/Object/Notification.lhs [hunk 80]
```diff
@@ -107,69 +106,80 @@ This function performs an receive signal operation, given a thread pointer and a
 > doNBRecvFailedTransfer :: PPtr TCB -> Kernel ()
 > doNBRecvFailedTransfer thread = asUser thread $ setRegister badgeRegister 0
 
+> receiveSignalBlocked :: PPtr TCB -> PPtr Notification -> Bool -> Kernel ()
+> receiveSignalBlocked thread ntfnPtr isBlocking = do
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Notification.lhs]: thread vs `tcbPtr` again, look at the other args

File: spec/haskell/src/SEL4/Object/Notification.lhs [hunk 81]
```diff
@@ -107,69 +106,80 @@ This function performs an receive signal operation, given a thread pointer and a
...
->                 setNotification ntfnPtr $ ntfn {ntfnObj = IdleNtfn }
+>                 updateNotification ntfnPtr (\notification -> notification { ntfnState = IdleNtfnState, ntfnMsgIdentifier = Nothing })
 >                 maybeDonateSc thread ntfnPtr
 >                 scOpt <- threadGet tcbSchedContext thread
 >                 ifCondRefillUnblockCheck scOpt (Just False) (Just False)
 
 \subsection{Delete Operation}
 
+> removeAndRestartNTFNQueuedThread :: PPtr TCB -> PPtr Notification -> Kernel ()
+> removeAndRestartNTFNQueuedThread t ntfnPtr = do
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Notification.lhs]: `t` vs `tcbPtr` again

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Yes you're right. I can write a comment for this.

I think I originally had this working on more general types, and so it wasn't necessarily a TCB pointer, but a pointer to some arbitrary type. Then I decided to just make this for `tcbSchedNext` in a TCB. I can change it back. As far as passing in `ptrOpt` and then using `ptrOpt` for the name of the bound variable, this is standard practice in `Lib` for `whileLoop`, where they will use a blue `r` for the original input and then it will be a green variable `r` for the bound one. But I can change this if people would like.

File: spec/haskell/src/SEL4/Object/Notification.lhs [hunk 82]
```diff
@@ -225,61 +223,66 @@ The following functions are specialisations of the "getObject" and "setObject" f
...
 
 > ntfnBlocked :: ThreadState -> Maybe (PPtr Notification)
 > ntfnBlocked ts = case ts of
 >     BlockedOnNotification r -> Just r
 >     _ -> Nothing
 
+> tcbNTFNDequeue :: PPtr TCB -> PPtr Notification -> Kernel ()
+> tcbNTFNDequeue tcbPtr ntfnPtr = do
+>     notification <- getNotification ntfnPtr
+>     q' <- tcbQueueRemove (ntfnQueue notification) tcbPtr
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Notification.lhs]: `q'` without a `q` again

Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Notification.lhs]: (and again in tcbNTFNAppend below)

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 70 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Yes the assert is just me being paranoid and can be removed. I don't need `head` stated separately, this is just the way that I preferred to write this function. Another one everyone should vote on so I know what to do.

File: spec/haskell/src/SEL4/Object/Notification.lhs [hunk 83]
```diff
@@ -225,61 +223,66 @@ The following functions are specialisations of the "getObject" and "setObject" f
...
->     setNotification ntfnPtr (ntfn { ntfnObj = WaitingNtfn qs'' })
-
-> getntfnQueue :: Notification -> Maybe [PPtr TCB]
-> getntfnQueue ntfn =
->     case ntfnObj ntfn of
->         WaitingNtfn qs -> Just qs
->         _ -> Nothing
+>     notification <- getNotification ntfnPtr
+>     q' <- tcbQueueRemove (ntfnQueue notification) tptr
+>     q'' <- tcbAppend tptr q'
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Notification.lhs]: There's no `q`, so `q` and `q'`. For consistency also, if you're renaming, then change the `qs` to `q` above.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 71 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I could use `prepend` as the name here, as long as people aren't bothered by `prepend` being a `bool` rather than a function.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 72 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Now I'm a bit unsure about whether these asserts are used somehow in Hoare triples. I think there are some bits in `invs'` that want to know whether `tcbQueueHead q` is `None`.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 73 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: `findInsertionPoint` can't return `None`, because we're wanting to insert an element into the middle of the queue, and so at worst, `findInsertionPoint` will return the last element of the queue: if we're wanting to add the new element at the end of the queue, we'd do `tcbQueueAppend`.

And it's been too long since I did all this to really know if it's a helper or redundant. As you can imagine, all this stuff with `findInsertionPoint` is rather finicky. This could be one of the paranoid `assert`s, because I do want to do `fromJust` just after this. I do then have a more substantial assert right after this.

File: proof/refine/KHeap_R.thy (hunk 74 above)
Comment (michaelmcinerney) [reply proof/refine/KHeap_R.thy:2401]: Sure, I'll add that.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 75 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: This was just ripped out of the previous version of `receiveIPC`. I can change it to `if` if people would prefer.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 73 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Yeah, if you removed that and needed to know it isn't Nothing, then you'd need to assert it in-place, and then have a wp rule for findInsertionPoint that says it can't return Nothing when the queue isn't empty. I guess crossing that over from the abstract would be a little bit shorter unless you already have that rule.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 72 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Hmm... you gotta admit it looks bizarre though when reading the code, right? :)

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 71 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: If that is itchy, maybe `prependTest` then?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 70 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I'd say optional cleanup is my vote. I'm curious, does simp automatically collapse these for you during refinement, or do you take an extra step?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I mean, looking at the code we can clearly see the blue and the green... I guess it makes sense for Lib, but the Haskell is meant to look like code, so typically we'd use something like `startPtr` or something. Speaking of which, why is the starting position a `Maybe`? Normally you'd not want to do a search of a list when you... don't have a list?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 77 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: The abstract spec does use `t` here, and did before the previous IPC queues PR, too. It doesn't get in the way of refinement, and I use `t` for both abstract and concrete functions.

The Haskell used `t` for all of these before, too. I really have no attachment to the names of any of these variables. If there is some convention, we should document it.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 68 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Well... that's a good hope. But at least people reviewing the PR had to think about it, so you never know.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 78 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: Yep, this one is redundant.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I think keeping it TCB-specific is the right choice for now. Having it extra-generic right now when there's only one instantiation will make it even harder to follow (you'd have to pass the advance function in separately).

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: It's an option type because `tcbSchedNext` is an option type. The code still does allow for the possibility that we run off the end of the list and then `tcbSchedNext tcb` in `findInsertionPoint` will be `Nothing`, and then then we return `False` in `compareVals`.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 77 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: If you saw `t` before you got your hands on it already, then I guess it's too late. It still sucks to see `ntfnPtr`, `epPtr`, and then `t`. I guess we'd expect `tcb` to be a `TCB`, and `tcbPtr` to be a pointer to one, but of course `t` was a weak point in the armour (and some people used `threadPtr`).
@corlewis @lsf37 happy to see some democracy on this one; if `t` for a pointer is fine, then I guess so long as people don't use it for a tcb as well, it'll be survivable.

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 84]
```diff
@@ -1051,80 +956,102 @@ lemma real_cte_at_cross:
...
-               split: Structures_A.thread_state.split_asm option.split_asm)
-
-lemma state_refs_of_cross_eq:
-  "\<lbrakk>(s, s') \<in> state_relation; pspace_aligned s; pspace_distinct s\<rbrakk>
-       \<Longrightarrow> state_refs_of' s' = state_refs_of s"
-  apply (rule sym)
-  apply (rule ext, rename_tac p)
+lemma sym_refs_cross:
+  "\<lbrakk>sym_refs (state_refs_of s); (s, s') \<in> state_relation; pspace_aligned s; pspace_distinct s\<rbrakk>
+   \<Longrightarrow> sym_refs (state_refs_of' s')"
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchKHeap_R.thy:1023]: Do you remember why you had to change this from the more generic `state_refs_of_cross` to specifically be for `sym_refs`? It doesn't seem related to the rest of this PR.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 70 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: This will be collapsed by `clarsimp` in `orderedInsert_rcorres`, but actually there are a fair few proofs where I don't want the `return` to be collapsed, because the `return` will be the abstract function in an `rcorres` rule, so I want it separate so that I can apply the `rcorres` rule. So there are quite a few `supply bind_return[simp del]` bits in these proofs.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 71 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I'm not bothered by the name, I just wouldn't want to change it to something else that's objectionable. So if you guys can vote on what you'd like, I can go with that.

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 85]
```diff
@@ -2216,6 +2370,8 @@ defs tcbInReleaseQueue_imp_active_sc_tcb_at'_asrt_def:
            (tcbInReleaseQueue |< tcbs_of' s') tcbPtr
            \<longrightarrow> (tcb_at' tcbPtr s' \<and> active_sc_tcb_at' tcbPtr s')"
 
+declare tcbInReleaseQueue_imp_active_sc_tcb_at'_asrt_def[simp]
```
Comment (corlewis) [inline proof/refine/RISCV64/ArchKHeap_R.thy:2190]: Huh, I never knew that you couldn't give `defs` attributes. That's a bit annoying

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Hmm. I don't see it. You can pass `Just ptr` to the loop to start with, and take a `ptr` instead of a `ptrOpt` for `findInsertionPoint`'s argument. When do you expect `findInsertionPoint` to be called with a `Nothing`?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 72 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Yep, this code is all kinds of messed up. Some of the asserts are helpful for reading the code, but by now, they're really just annotations for the proofs.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: The initial value needs to be of the same type as the return value of the loop's body. `findInsertionPoint` is never called with `Nothing`, because that would mean that the queue is empty, and so we wouldn't be able to insert a pointer into the (empty) queue.

File: proof/refine/CSpace1_R.thy [hunk 86]
```diff
@@ -1544,6 +1500,28 @@ lemma setObject_cte_scs_of'_use_valid_ksPSpace:
   using use_valid[OF step setObject_scs_of'(1)] pre
   by auto
 
+lemma setObject_cte_epQueues_of[wp]:
+  "setObject c (cte :: cte) \<lbrace>\<lambda>s. P' (epQueues_of s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/CSpace1_R.thy:1500]: Very minor but should these `setObject` lemmas be moved to the others in KHeap_R?

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 79 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: I might have originally had a `return` of `epQueue ep` and called this `q`. But to me `q'` indicates it's a new queue, which I kind of like. Happy to make this `q`.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 84 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy:1023]: Before, `state_refs_of'` mirrored `state_refs_of` perfectly. But now, `state_refs_of'` is reduced because we don't have the entire list of pointers in the notification or endpoint queues. I actually think that if the reply stack stuff weren't so much of a disaster, then we could easily get rid of `state_refs_of'` entirely.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Yes, but you are somehow combining the input to the loop's body with the first argument. If you take `ptr` as your first argument, then the function takes a `PPtr  TCB`, and the loop needs a `Maybe (PPtr TCB)`, so you give it `Just ptr`, and then that will be the initial loop value type as well as the return value type of `findInsertionPoint`. Is `findInsertionPoint` ever called in a loop or something? Why would the first arg and its return value need the same type?

Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I could do that, but I don't think there would be anything to gain from it. `findInsertionPoint` is only called once, in `orderedInsert` (as I said it's really just implementation detail that I would hope no one ever has to touch again), and there it is called with the initial value being `tcbQueueHead q` for some queue `q`.

File: proof/refine/CSpace1_R.thy (hunk 86 above)
Comment (michaelmcinerney) [reply proof/refine/CSpace1_R.thy:1500]: These lemmas (for `epQueues_of` and `ntfnQueues_of`) actually follow from other lemmas in `KHeap_R`, I just wanted these versions explicitly written out here so they can be used in some sort of horrible proof that uses `use_valid` (in keeping with the previous proof).

File: proof/refine/TcbAcc_R.thy [hunk 87]
```diff
@@ -1093,39 +1007,21 @@ lemma threadSet_sched_pointers:
...
-  apply (fastforce simp: opt_map_def obj_at'_def)
+  apply (clarsimp simp: opt_pred_def opt_map_def obj_at'_def split: option.splits)
+  apply (fastforce dest: spec[where x=tcbPtr])
   done
 
-lemma threadSet_tcbSchedPrevs_of:
-  "(\<And>tcb. tcbSchedPrev (F tcb) = tcbSchedPrev tcb) \<Longrightarrow>
-   threadSet F t \<lbrace>\<lambda>s. P (tcbSchedPrevs_of s)\<rbrace>"
+lemma threadSet_field_inv:
+  "(\<And>tcb. f (F tcb) = f tcb) \<Longrightarrow> threadSet F t \<lbrace>\<lambda>s. P (tcbs_of' s |> f)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/TcbAcc_R.thy:1019]: Ooh, this and the following lemma are nice ways to handle all of the projections at once. They should probably have `unchanged` in their name though, to leave room for a more general version that I think could look something like
```
"(⋀tcb. P (f tcb) ⟶ P (f (F tcb))) ⟹ threadSet F t ⦃λs. P (tcbs_of' s |> f)⦄"
```

File: proof/refine/CSpace1_R.thy (hunk 86 above)
Comment (corlewis) [reply proof/refine/CSpace1_R.thy:1500]: Haha, talking of them, I almost commented on those `use_valid` proofs asking if they could be reworked before noticing that they followed existing patterns. In general avoiding `use_valid` and other proof patterns that make use of the underlying monad structure is nice but it's not worth making things more complicated for ourselves when the existing proofs already do it.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Then maybe a comment saying that the first arg is an opt for convenience when calling the function with `tcbQueueHead q`, because as this discussion shows this was not very obvious, and the code looks non-idiomatic.

File: proof/refine/StateRelation.thy [hunk 88]
```diff
@@ -313,18 +307,13 @@ primrec obj_relation_cuts :: "Structures_A.kernel_object \<Rightarrow> machine_w
       then {(cte_map (x, y), cte_relation y) | y. y \<in> dom cs}
       else {(x, \<bottom>\<bottom>)})"
 | "obj_relation_cuts (TCB tcb) x = {(x, tcb_relation_cut)}"
-| "obj_relation_cuts (Endpoint ep) x = {(x, other_obj_relation)}"
-| "obj_relation_cuts (Notification ntfn) x = {(x, other_obj_relation)}"
+| "obj_relation_cuts (Structures_A.Endpoint ep) x = {(x, ep_relation_cut)}"
+| "obj_relation_cuts (Structures_A.Notification ntfn) x = {(x, ntfn_relation_cut)}"
```
Comment (Xaphiosis) [inline proof/refine/StateRelation.thy]: this is an improvement, I think. when I had to deal with other_obj_relation for arch-split, it was not fun to untangle the reasoning.

File: proof/refine/StateRelation.thy [hunk 89]
```diff
@@ -1084,8 +1115,8 @@ locale StateRelation_R =
     "\<And>n. \<not> is_other_obj_relation_type (ASchedContext n)"
     "\<not> is_other_obj_relation_type AReply"
     "\<not> is_other_obj_relation_type ATCB"
-    "is_other_obj_relation_type AEndpoint"
-    "is_other_obj_relation_type ANTFN"
+    "\<not> is_other_obj_relation_type AEndpoint"
+    "\<not> is_other_obj_relation_type ANTFN"
     "\<And>n. \<not> is_other_obj_relation_type (AGarbage n)"
```
Comment (Xaphiosis) [inline proof/refine/StateRelation.thy]: so, um, at this point... is *anything* in `is_other_obj_relation_type`? If not, this interface is looking a bit silly now.

File: proof/refine/StateRelationPre.thy (hunk 59 above)
Comment (Xaphiosis) [reply proof/refine/StateRelationPre.thy:32]: yes, very useful, thanks!

File: proof/refine/RISCV64/Interrupt_R.thy [hunk 90]
```diff
@@ -733,13 +733,12 @@ lemma hint_invs[wp]:
   apply (simp add: handleInterrupt_def getSlotCap_def cong: irqstate.case_cong)
   apply (rule conjI; rule impI)
    apply (wp dmo_maskInterrupt_True getCTE_wp'
-          | wpc | simp add: doMachineOp_bind maskIrqSignal_def )+
-      apply (rule_tac Q'="\<lambda>rv. invs'" in hoare_post_imp)
-       apply (clarsimp simp: cte_wp_at_ctes_of ex_nonz_cap_to'_def)
-       apply fastforce
+          | wpc | simp add: doMachineOp_bind maskIrqSignal_def)+
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Interrupt_R.thy]: nitpick: this should be collapsible into a wpsimp (as it includes wpc)

File: proof/refine/RISCV64/InterruptAcc_R.thy [hunk 91]
```diff
@@ -163,34 +163,66 @@ lemma no_ofail_readRefillSufficient[wp]:
...
-    apply wpsimp
-   apply (clarsimp simp: sc_at_ppred_def obj_at_def is_sc_obj_def)
-   apply (fastforce intro: valid_objs_valid_sched_context_size)
+  apply (rule_tac Q'=pspace_bounded' in corres_cross_add_guard)
+   apply (fastforce intro: pspace_relation_pspace_bounded')
+  apply (rule corres_underlying_from_rcorres)
+   apply wpsimp
+  apply (clarsimp simp: state_relation_def ghost_relation_heap_ghost_relation
+                        pspace_relation_heap_pspace_relation heap_pspace_relation_def)
+  apply (rcorres_conj_lift \<open>fastforce\<close>)+
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/InterruptAcc_R.thy]: for a single-word method, you don't need the cartouches, e.g. `solves simp`

File: proof/refine/StateRelation.thy (hunk 89 above)
Comment (michaelmcinerney) [reply proof/refine/StateRelation.thy]: Asid pools are! But yeah these are becoming pretty silly.

File: proof/refine/TcbAcc_R.thy (hunk 87 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy:1019]: Oh yeah maybe I can make that change to this lemma. Would the current naming be OK if I had the `P` in the assumptions too?

File: proof/refine/StateRelation.thy (hunk 89 above)
Comment (Xaphiosis) [reply proof/refine/StateRelation.thy]: I think that's probably not going to happen in this PR, but it would be nice to see a bit of a cleanup of it at some point. Probably like you did it, make the specific cuts for specific objects (now one), and then get rid of the other stuff completely.

For this specific interface though, I think it can be reduced to "if it's not an arch object, then it's not is_other_obj_relation_type".

File: proof/refine/TcbAcc_R.thy (hunk 87 above)
Comment (corlewis) [reply proof/refine/TcbAcc_R.thy:1019]: Yeah, that would be fine. Although it's hard to tell without trying, you might still want `unchanged` versions like the existing ones for ease of use in cases where `f` and `F` are unrelated.

File: proof/refine/TcbAcc_R.thy [hunk 92]
```diff
@@ -2141,349 +1804,1219 @@ lemma threadSet_prev_queue_head_other:
...
+   \<lbrace>\<lambda>ptrOpt s'. \<exists>ptr. (ptrOpt = Some ptr \<and> ptr \<in> set ts \<and> ptr \<noteq> hd ts)
+                      \<and> (\<exists>val'. f ptr s' = Some val' \<and> R val val' \<and> val \<noteq> val')
+                      \<and> (\<forall>pfx. (\<exists>sfx. pfx @ ptr # sfx = ts)
+                                \<longrightarrow> (\<forall>p \<in> set pfx. R (the (f p s')) val'))\<rbrace>"
+  (is "\<lbrakk>_; _; _\<rbrakk> \<Longrightarrow> \<lbrace>?pre\<rbrace> _ \<lbrace>_\<rbrace>")
+  supply heap_path_append[simp del]
+  apply (rule hoeare_ex_context_conj)
+   apply (wpsimp wp: findInsertionPoint_rv_in_set)
+  apply (clarsimp simp: findInsertionPoint_def)
+  apply (rule hoare_pre)
```
Comment (corlewis) [inline proof/refine/TcbAcc_R.thy]: Incredibly minor but I have a preference for `wp_pre` over directly using `hoare_pre` or similar rules.

File: proof/refine/TcbAcc_R.thy [hunk 93]
```diff
@@ -2141,349 +1804,1219 @@ lemma threadSet_prev_queue_head_other:
...
+  supply heap_path_append[simp del] distinct_append[simp del] filter_append[simp del]
+         if_split[split del]
+  apply (clarsimp simp: tcbQueueRemove_def removeAll_filter_not_eq)
+  apply (rule rcorres_stateAssert_r_fwd)
+  apply (rule rcorres_stateAssert_r_fwd)
+  apply (rule rcorres_symb_exec_r[OF get_tcb_sp'])
+   apply wpsimp
+  apply (rule rcorres_if_r_fwd)
+     \<comment> \<open>ts is the singleton list containing tcbPtr\<close>
+   apply (rule rcorres_return)
```
Comment (corlewis) [inline proof/refine/TcbAcc_R.thy]: I know that the autoindenter can be a pain but it would be nice to line these comments up with the proof script.

File: proof/refine/RISCV64/Reply_R.thy [hunk 94]
```diff
@@ -610,31 +500,52 @@ lemma setSchedContext_valid_tcbs'[wp]:
...
-  for valid_sched_pointers[wp]: valid_sched_pointers
+  for sym_heap_sched_pointers[wp]: sym_heap_sched_pointers
 
 crunch replyRemoveTCB
   for valid_bitmaps[wp]: valid_bitmaps
-  and sym_heap_sched_pointers[wp]: sym_heap_sched_pointers
-  and valid_sched_pointers[wp]: valid_sched_pointers
   (simp: crunch_simps)
 
+(* A direct weakening of @{thm setThreadState_valid_sched_pointers} *)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Reply_R.thy]: in (* *) comments, don't use `@{}`, it doesn't make sense. also, what is a "direct" weakening?

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy [hunk 95]
```diff
@@ -0,0 +1,588 @@
+(*
+ * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
+ * Copyright 2025, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+(*
+   Arch-specific lemmas related to a heap based approach to the state relation.
+*)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy]: wrap to one `(* ... *)` line please

File: proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy (hunk 13 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchHeapStateRelationLemmas.thy:25]: Unfortunately `obj_relation_cuts_def2` forces Arch. I didn't manage to figure out a way to constrain the arch parts in a way which makes sense. It might be possible, but needs thinking and effort likely better for a second pass.

File: proof/refine/TcbAcc_R.thy [hunk 96]
```diff
@@ -2141,349 +1804,1219 @@ lemma threadSet_prev_queue_head_other:
...
+        \<and> ((\<lambda>tcb. tcbDomain tcb \<noteq> d \<or> tcbPriority tcb \<noteq> p) |< tcbs_of' s) tcbPtr\<rbrace>
+   threadSet (tcbQueued_update f) tcbPtr
+   \<lbrace>\<lambda>_ s. P (inQ d p |< tcbs_of' s)\<rbrace>"
+  apply (wpsimp wp: threadSet_wp)
+  by (fastforce elim: rsubst[where P=P] simp: inQ_def opt_pred_def opt_map_def obj_at'_def)
+
+lemma threadSet_inQ:
+  "\<lbrakk>\<And>tcb. tcbPriority (F tcb) = tcbPriority tcb; \<And>tcb. tcbDomain (F tcb) = tcbDomain tcb;
+    \<And>tcb. tcbQueued (F tcb) = tcbQueued tcb\<rbrakk>
+   \<Longrightarrow> threadSet F tcbPtr \<lbrace>\<lambda>s. P (inQ d p |< tcbs_of' s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/TcbAcc_R.thy]: I'd prefer to make this `threadSet_inQ_unchanged` so that it's clear from the name that it isn't a completely general lemma.

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 97]
```diff
@@ -1266,11 +1192,258 @@ lemma ready_qs_runnable_cross:
...
+                       = Some (getF', setF', restr)
+          \<and> cte_map (x, tcb_cnode_index (unat ((v - x) >> cte_level_bits))) = v
+          \<and> (\<forall>tcb tcb'. tcb_relation tcb tcb' \<longrightarrow> cap_relation (getF' tcb) (cteCap (getF tcb')))
+          \<and> (\<forall>tcb tcb' cap cte. tcb_relation tcb tcb' \<longrightarrow> cap_relation cap (cteCap cte)
+                        \<longrightarrow> tcb_relation (setF' (\<lambda>x. cap) tcb) (setF (\<lambda>x. cte) tcb'))"
+  apply (clarsimp simp: tcb_cte_cases_def tcb_relation_def cte_level_bits_def cteSizeBits_def
+                        tcb_cap_cases_simps[simplified]
+                 split: if_split_asm)
+  apply (simp_all add: tcb_cnode_index_def cte_level_bits_def cte_map_def field_simps to_bl_1)
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchKHeap_R.thy]: this looks generic. there's a proof that cteSizeBits and cte_level_bits are equivalent, and there's `tcb_cte_cases_neqs` to wrap it up

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 98]
```diff
@@ -1266,11 +1192,258 @@ lemma ready_qs_runnable_cross:
...
+
+lemma pspace_relation_cte_wp_atI:
+  "\<lbrakk>pspace_relation (kheap s) (ksPSpace s'); ctes_of (s' :: kernel_state) x = Some cte;
+    valid_objs s\<rbrakk>
+   \<Longrightarrow> \<exists>c slot. cte_wp_at ((=) c) slot s \<and> cap_relation c (cteCap cte) \<and> x = cte_map slot"
+  apply (erule pspace_relation_cte_wp_atI'[where x=x])
+   apply (simp add: cte_wp_at_ctes_of)
+  apply assumption
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchKHeap_R.thy:1257]: generic proof in Arch theory?

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 99]
```diff
@@ -1266,11 +1192,258 @@ lemma ready_qs_runnable_cross:
...
+lemma tcb_cases_related:
+  "tcb_cap_cases ref = Some (getF, setF, restr)
+   \<Longrightarrow> \<exists>getF' setF'.
+        (\<forall>x. tcb_cte_cases (cte_map (x, ref) - x) = Some (getF', setF'))
+        \<and> (\<forall>tcb tcb'. tcb_relation tcb tcb' \<longrightarrow> cap_relation (getF tcb) (cteCap (getF' tcb')))"
+  by (clarsimp simp: tcb_relation_def cte_map_def tcb_cap_cases_def tcb_cte_cases_neqs
+                     tcb_cte_cases_def tcb_cnode_index_def
+                     to_bl_1
+               simp flip: cteSizeBits_cte_level_bits
+               split: if_split_asm)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchKHeap_R.thy]: this is also a generic proof, shouldn't be in Arch theory

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 100]
```diff
@@ -1266,11 +1192,258 @@ lemma ready_qs_runnable_cross:
...
+  apply (clarsimp simp: tcb_relation_cut_def)
+  apply (simp split: kernel_object.split_asm)
+  apply (drule(2) aligned'_distinct'_ko_at'I[where 'a=tcb], simp)
+   apply simp
+  apply (drule tcb_cases_related)
+  apply (clarsimp simp: obj_at'_def gen_objBits_simps)
+  apply (erule(2) cte_wp_at_tcbI')
+   apply fastforce
+  apply simp
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchKHeap_R.thy]: this also does not look like it should be in ArchKHeap

File: proof/refine/RISCV64/ArchKHeap_R.thy [hunk 101]
```diff
@@ -1266,11 +1192,258 @@ lemma ready_qs_runnable_cross:
...
+    apply (rule live'_sc_cross; fastforce?)
+    apply (fastforce intro: state_relation_sc_replies_relation)
+   apply (force intro!: sc_at_pred_n_sc_at simp: sc_at_pred_n_def obj_at_def)
+  apply (frule replies_relation_reply_relation_conc; fastforce?)
+  apply clarsimp
+  apply (rule ex_nonz_cap_to_reply_at_cross; fastforce?)
+   apply (erule (1) if_live_then_nonz_capD2)
+   apply (force intro: live'_reply_cross)
+  apply (clarsimp simp: obj_at_def is_reply_def)
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/ArchKHeap_R.thy]: is this arch-specific? I don't think it should be... and the 5 cross lemmas above it look generic too. feels like this whole section got yoinked from elsewhere and should largely not be here. one lemma (`pspace_relation_cte_wp_atI'`) looks Arch-specific due to `obj_relation_cutsE`, and that should probably be interfaced, but the rest shouldn't be in here.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 49 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/Tcb_R.thy]: `ts` is what we canonically use for a list of thread pointers, so I'd go with that unless there's a compelling reason not to. Also `list` appears above, and `ls` appears below

File: proof/refine/KHeap_R.thy [hunk 102]
```diff
@@ -8,9 +8,18 @@
...
 begin
 
+(* requalify interface lemmas which can't be locale assumptions due to free type variable *)
+arch_requalify_facts
+  aobjs_relation_lift_rcorres
+  heap_ghost_relation_lift_rcorres
+
+declare aobjs_relation_lift_rcorres[rcorres_lift]
+
+declare heap_ghost_relation_lift_rcorres[rcorres_lift]
```
Comment (Xaphiosis) [inline proof/refine/KHeap_R.thy]: `lemmas [rcorres_lift] = ...` please

File: proof/refine/KHeap_R.thy [hunk 103]
```diff
@@ -2484,25 +2379,44 @@ lemma setObject_tcb_pspace_no_overlap':
 
 end
 
+lemma get_object_det_wp[wp]:
+  "det_wp (obj_at \<top> ptr) (get_object ptr)"
+  unfolding get_object_def
+  apply wpsimp
+  apply (clarsimp simp: obj_at_def)
+  done
```
Comment (Xaphiosis) [inline proof/refine/KHeap_R.thy:2397]: two-line `by`

File: proof/refine/KHeap_R.thy [hunk 104]
```diff
@@ -2484,25 +2379,44 @@ lemma setObject_tcb_pspace_no_overlap':
...
+  "det_wp \<top> (put s)"
+  unfolding put_def
+  by (clarsimp simp: det_wp_def)
+
+lemma set_object_det_wp[wp]:
+  "det_wp (obj_at (\<lambda>k. a_type obj = a_type k) ptr) (set_object ptr obj)"
+  unfolding set_object_def
+  apply (wpsimp wp: get_object_wp)
+  apply (clarsimp simp: obj_at_def)
+  done
```
Comment (Xaphiosis) [inline proof/refine/KHeap_R.thy]: also two-line `by`

File: proof/refine/KHeap_R.thy [hunk 105]
```diff
@@ -2603,26 +2517,30 @@ lemma obj_relation_cuts_range_limit:
...
+         apply (simp add: objBits_simps' min_sched_context_bits_def)
+        apply (rule_tac x=replySizeBits in exI)
+        apply (simp add: replySizeBits_def)
+       apply (rule_tac x=tcbBlockSizeBits in exI)
+       apply (simp add: tcbBlockSizeBits_def)
+      apply (rule_tac x=epSizeBits in exI)
+      apply (simp add: epSizeBits_def)
+     apply (rule_tac x=ntfnSizeBits in exI)
+     apply (simp add: ntfnSizeBits_def)
+    apply (rule_tac x=pteBits in exI)
```
Comment (Xaphiosis) [inline proof/refine/KHeap_R.thy:2544]: @corlewis : this looks quite arch-specific in KHeap_R, is this known to you?

Comment (corlewis) [reply proof/refine/KHeap_R.thy:2544]: Don't forget that the rt branch is not properly arch-split, the merges I did mostly focused on keeping things working while bringing everything as in sync as easily possible. In this case, this is still in an Arch block that is marked `FIXME: arch-split RT`. I think you're right that it should end up in `ArchKHeap_R`.

File: proof/refine/TcbAcc_R.thy [hunk 106]
```diff
@@ -2935,15 +3810,15 @@ lemma isSchedulable_inv[wp]:
   "getSchedulable tcbPtr \<lbrace>P\<rbrace>"
   by (wpsimp wp: getSchedulable_wp)
 
-lemma no_ofail_readSchedulable[wp]:
+lemma no_ofail_readSchedulable:
   "no_ofail (tcb_at' tcbPtr and valid_tcbs') (readSchedulable tcbPtr)"
```
Comment (corlewis) [inline proof/refine/TcbAcc_R.thy:3806]: Out of curiosity, why are this and `no_fail_getSchedulable` no longer `wp`?

File: proof/refine/TcbAcc_R.thy [hunk 107]
```diff
@@ -2141,349 +1804,1219 @@ lemma threadSet_prev_queue_head_other:
...
+    apply (clarsimp simp: list_queue_relation_def)
+    apply (rename_tac new_s tcb prev_ptr ptr)
+    apply (frule_tac np=ptr and p=prev_ptr and hp="tcbSchedNexts_of new_s" in heap_ls_prev_cases)
+       apply simp
+      apply (erule sym_heapD2)
+      apply (fastforce simp: opt_map_def obj_at'_def)
+     apply fastforce
+    apply (fastforce simp: opt_map_def obj_at'_def prev_queue_head_def)
+   apply force
+  apply (clarsimp simp: list_queue_relation_def)
```
Comment (Xaphiosis) [inline proof/refine/TcbAcc_R.thy]: very difficult to follow this proof script, some comments delineating points of interest / stages would help a lot

File: proof/refine/TcbAcc_R.thy [hunk 108]
```diff
@@ -2141,349 +1804,1219 @@ lemma threadSet_prev_queue_head_other:
...
+          \<and> tcb_at' beforePtr s \<and> tcb_at' t s)
+     (tcbQueueInsert t afterPtr) (tcbQueueInsertAfter t beforePtr)"
+  apply (clarsimp simp: tcbQueueInsert_def tcbQueueInsertAfter_def)
+  apply monadic_rewrite_symb_exec_l
+    apply monadic_rewrite_symb_exec_l
+     apply monadic_rewrite_symb_exec_l
+      apply monadic_rewrite_symb_exec_r
+        apply monadic_rewrite_symb_exec_l
+        apply monadic_rewrite_symb_exec_r
+         apply monadic_rewrite_symb_exec_l
```
Comment (Xaphiosis) [inline proof/refine/TcbAcc_R.thy]: This looks fiddly, and without a comment I can't see where you're skipping to, or why you need to interleave left/right, or why you're walking over the binds manually.
Do the `monadic_rewrite_l` and `monadic_rewrite_r` methods not work for you here?

File: proof/refine/RISCV64/InterruptAcc_R.thy [hunk 109]
```diff
@@ -163,34 +163,66 @@ lemma no_ofail_readRefillSufficient[wp]:
...
+
 lemma getRefillHead_corres:
   "sc_ptr = scPtr \<Longrightarrow>
    corres (\<lambda>rv rv'. refill_map rv' = rv)
      (valid_objs and pspace_aligned and pspace_distinct
       and is_active_sc sc_ptr and sc_at sc_ptr and sc_refills_sc_at (\<lambda>refills. refills \<noteq> []) sc_ptr)
      valid_objs'
      (get_refill_head sc_ptr) (getRefillHead scPtr)"
+  supply ghost_relation_wrapper_def[simp del] (*FIXME arch-split RT: not necessary after arch-split*)
+         heap_ghost_relation_wrapper_def[simp del] (*FIXME arch-split RT: not necessary after arch-split*)
```
Comment (corlewis) [inline proof/refine/RISCV64/InterruptAcc_R.thy:214]: Thanks for the comments marking these, they should help us in the future

File: proof/refine/KHeap_R.thy (hunk 105 above)
Comment (Xaphiosis) [reply proof/refine/KHeap_R.thy:2544]: It's unfolding lots of bits. I guess the arch part might be abstractable, but not sure about avoiding unfolding the bits... so yeah, probably Arch territory (but probably not for this PR)

File: proof/refine/RISCV64/Ipc_R.thy [hunk 110]
```diff
@@ -2305,68 +2275,257 @@ lemma reply_push_valid_objs:
...
+  tcb_append_empty_fail tcb_append_set_endpoint_empty_fail
+
+crunch orderedInsert
+  for valid_objs'[wp]: valid_objs'
+  and obj_at'_endpoint[wp]: "\<lambda>s. Q (obj_at' (\<lambda>ep. (P :: endpoint \<Rightarrow> bool) ep) epPtr s)"
+  and obj_at'_notification[wp]: "\<lambda>s. Q (obj_at' (\<lambda>ep. (P :: notification \<Rightarrow> bool) ep) epPtr s)"
+  (wp: crunch_wps)
+
+method ipc_append =
+  (rule det_wp_pre no_fail_pre, rule tcb_append_rules, fastforce)[1] | wpsimp
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy]: is this used much? the name is a bit strange to put into the global scope

File: proof/refine/RISCV64/Ipc_R.thy [hunk 111]
```diff
@@ -2461,732 +2609,839 @@ crunch set_simple_ko
...
-  apply (rule_tac I="\<lambda>rv s. release_queue s \<noteq> []"
-              and R="{((r', s'), (r, s)). length r' < length r}"
-               in not_snd_whileLoop)
+lemma bound_sc_tcb_at_cross':
+  "\<lbrakk>bound_sc_tcb_at P t s; (s, s') \<in> state_relation; pspace_aligned s; pspace_distinct s\<rbrakk>
+   \<Longrightarrow> bound_sc_tcb_at' P t s'"
+  by (fastforce dest!: bound_sc_tcb_at_cross simp: pred_tcb_at'_def obj_at'_def opt_map_red)
+
+lemma sendIPC_corres:
+(* call is only true if called in handleSyscall SysCall, which is always blocking. *)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy:2982]: indent

File: proof/refine/RISCV64/Ipc_R.thy [hunk 112]
```diff
@@ -2461,732 +2609,839 @@ crunch set_simple_ko
...
+    apply (fastforce intro!: sendIPC_corres_sym_refs_helper)
+   apply (clarsimp simp: obj_at_def pred_tcb_at_def)
+  apply (clarsimp simp: invs'_def valid_pspace'_def)
+  apply (intro conjI impI allI)
+      apply (fastforce intro: tcb_at_cross)
+     apply (fastforce intro: tcb_at_cross)
+    apply (clarsimp simp: pred_tcb_at_def obj_at_def)
+   apply (fastforce intro!: sym_refs_tcbSCs)
+  apply (fastforce dest!: bound_sc_tcb_at_cross')
   done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy:3425]: totally lost trying to look over this proof, no markers to delineate any phases or comments. seeing those large blocks of hoare_post_imp makes me wonder if there's any chance for the proof to be done less forcefully, but mostly I have no idea what's going on

File: proof/refine/RISCV64/Schedule_R.thy [hunk 113]
```diff
@@ -2419,8 +2207,12 @@ lemma rescheduleRequired_sch_act_sane[wp]:
   apply (simp add: rescheduleRequired_def sch_act_sane_def setSchedulerAction_def)
   by (wpsimp wp: getSchedulable_wp)
 
+lemma sch_act_sane_chooseNewThread[simp]:
+  "sch_act_sane (s\<lparr>ksSchedulerAction := ChooseNewThread\<rparr>)"
```
Comment (corlewis) [inline proof/refine/RISCV64/Schedule_R.thy]: Not sure exactly where, but this looks like something that would be good to have earlier

File: proof/refine/RISCV64/Ipc_R.thy [hunk 114]
```diff
@@ -2461,732 +2609,839 @@ crunch set_simple_ko
...
+  and ntfn_at[wp]: "ntfn_at t"
+  (wp: crunch_wps simp: crunch_simps ignore: set_object)
+
+lemma valid_sched_weak_strg:
+  "valid_sched s \<longrightarrow> weak_valid_sched_action s"
+  by (simp add: valid_sched_def valid_sched_action_def)
+
+lemma idle_tsr:
+  "thread_state_relation ts ts' \<Longrightarrow> idle' ts' = idle ts"
+  by (case_tac ts, auto)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/Ipc_R.thy:3453]: generic, shouldn't be in Arch!
same for `valid_sched_weak_strg`, and I'm not sure why the crunch needs to be in here either (if there is some hoare rule that is needed that is Arch-dependent, then that one needs to be in Arch, and the rest of the crunch outside)

File: proof/refine/RISCV64/Schedule_R.thy [hunk 115]
```diff
@@ -3857,8 +3761,8 @@ lemma scheduleUsed_corres:
   apply (rule corres_if_split; (solves simp)?)
    apply (corres corres: refillAddTail_corres)
     apply (fastforce simp: is_active_sc_rewrite)
-   apply (fastforce dest!: valid_objs'_valid_refills'
-                     simp: obj_at_simps opt_map_red opt_pred_def valid_refills'_def)
+   apply (force dest!: valid_objs'_valid_refills'
+                 simp: obj_at_simps opt_pred_def opt_map_def valid_refills'_def )
```
Comment (corlewis) [inline proof/refine/RISCV64/Schedule_R.thy:3761]:
```suggestion
                 simp: obj_at_simps opt_pred_def opt_map_def valid_refills'_def)
```

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 116]
```diff
@@ -52,26 +100,22 @@ lemma cancelSignal_pred_tcb_at':
...
- for pred_tcb_at'[wp]: "pred_tcb_at' proj P t"
+  for pred_tcb_at'[wp]: "pred_tcb_at' proj P t"
+  and typ_at'[wp]: "\<lambda>s. P (typ_at' T p s)"
   (wp: setCTE_pred_tcb_at')
 
 defs capHasProperty_def:
   "capHasProperty ptr P \<equiv> cte_wp_at' (\<lambda>c. P (cteCap c)) ptr"
 
-end
+end (* end Arch interpretation *)
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/IpcCancel_R.thy]: Please remove "end", this is a comment on the `end` command

File: proof/refine/RISCV64/Reply_R.thy (hunk 94 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Reply_R.thy]: I just meant a straightforward weakening. I'll remove the comment.

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 117]
```diff
@@ -2302,283 +2786,797 @@ lemma restart_thread_if_no_fault_corres:
...
+   apply (frule state_relation_pspace_relation)
+   apply (clarsimp simp: pspace_relation_heap_pspace_relation heap_pspace_relation_def
+                         map_relation_def eps_of_kh_def opt_map_def obj_at'_def ep_at_pred_def
+                         ep_relation_def
+                  split: option.splits Structures_A.endpoint.splits)
+  apply (corres corres: rescheduleRequired_corres)
+   apply (frule valid_sched_valid_ready_qs)
+   apply (fastforce dest: valid_sched_valid_release_q)
+  apply fastforce
+  done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/IpcCancel_R.thy:3572]: can't follow this one, could use some markers

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 35 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/IpcCancel_R.thy:3727]: Or move it to Move_R for now, it's the holding area for that kind of thing

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 118]
```diff
@@ -2715,84 +3720,268 @@ crunch if_cond_refill_unblock_check
...
+  apply (rule corres_assert_gen_asm_cross_forwards)
+   apply (frule state_relation_pspace_relation)
+   apply (clarsimp simp: pspace_relation_heap_pspace_relation heap_pspace_relation_def
+                         map_relation_def opt_map_def obj_at'_def ntfn_at_pred_def ntfn_relation_def
+                  split: option.splits Structures_A.ntfn.splits)
+  apply (corres corres: rescheduleRequired_corres)
+   apply (frule valid_sched_valid_ready_qs)
+   apply (fastforce dest: valid_sched_valid_release_q)
+  apply fastforce
   done
```
Comment (Xaphiosis) [inline proof/refine/RISCV64/IpcCancel_R.thy:3978]: another one where I'm lost, no markers

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 97 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: This lemma was moved from `ArchCSpace1_R.thy`, where it is in `master`, too, so I assumed that this couldn't be made generic. I tried putting this into `KHeap_R.thy` and using the lemmas you mentioned, but couldn't get it working.

File: proof/refine/TcbAcc_R.thy (hunk 106 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy:3806]: I think I was messing with the asserts in this function and so wanted to remove it from the `wp` set while I figured things out. I can put it back into the `wp` set now.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 110 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy]: I can make this a private method.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 112 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:3425]: I have mentioned several times that this and `receiveIPC_corres` are a pretty big nightmare and that it would be good if we could all look over them to see if they can be improved. I think given the very big invariants we have to carry through these proofs and how much longer these functions are in comparison with `master`, it's somewhat expected and I'm not sure much can be done. All the `hoare_post_imp`s were there before and I was simply happy that I didn't have to blow up the proof massively to get it working.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 114 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:3453]: I didn't write this, the diff must be getting confused. I certainly didn't add any `interpretation` commands in this file.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 110 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/Ipc_R.thy]: Can you confirm whether private methods still show up outside the context when using `print_methods`? I remember them leaking out, but not sure what the particulars were.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 97 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: Ah, in that case let's leave that attempt out of this PR.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 114 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/Ipc_R.thy:3453]: Unless I misinterpreted the diff, you didn't add interpretation, but where you added the lemmas ended up inside the `context begin interpretation Arch .`, whereas they should be outside (with a maybe on the crunch). I know the file hasn't been arch-split yet, but no reason to make things harder for later.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 98 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy:1257]: This uses `pspace_relation_cte_wp_atI'` which was moved from `ArchCSpace1_R.thy` (where it is in `master`, too), so this seems like it needs to be interfaced or remain in an Arch theory.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 99 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: I've moved this to `KHeap_R.thy`

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 100 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: Moved to `KHeap_R.thy`.

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 119]
```diff
@@ -212,41 +251,426 @@ lemma setEndpoint_valid_tcbs'[wp]:
...
+  "\<lbrace>\<lambda>s. P (epQueues_of s p) \<and> p \<noteq> epPtr\<rbrace>
+   updateEndpoint epPtr F
+   \<lbrace>\<lambda>_ s. P (epQueues_of s p)\<rbrace>"
+  apply (wpsimp wp: updateEndpoint_wp)
+  apply (erule rsubst[where P=P])
+  apply (clarsimp simp: opt_map_def)
+  done
+
+lemmas corres_assert_gen_asm_cross_forwards =
+  corres_assert_gen_asm_cross[where P=P' and P'=P' for P', where Q=Q' and Q'=Q' for Q', simplified]
```
Comment (corlewis) [inline proof/refine/RISCV64/IpcCancel_R.thy]: Hard to tell from the diff but should this be moved to lib?

File: proof/refine/RISCV64/IpcCancel_R.thy [hunk 120]
```diff
@@ -212,41 +251,426 @@ lemma setEndpoint_valid_tcbs'[wp]:
...
+
+lemma set_endpoint_cdt_list[wp]:
+  "set_endpoint ptr ep \<lbrace>\<lambda>s. P (cdt_list s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/RISCV64/IpcCancel_R.thy]: Wouldn't make that much difference but it might be nice to bundle all of these `set_endpoint` and `set_notification` lemmas about projections being preserved into two lemmas.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 101 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: This area is a little annoying. I did write these 5 cross lemmas for this PR so that I can cross `if_live_then_nonz_cap` and remvoe `if_live_then_nonz_cap'` from `invs'`.

The lemma `live'_tcb_cross` will require some arch stuff, because of `hyp_live'`. I'm wondering if we would like to add an assumption saying `hyp_live' (KOTCB tcb') ⟹ live (TCB tcb)` to the `KHeap_R` locale and then proving `live'_tcb_cross` and `if_live_then_nonz_cap_to_cross` in the locale. Does that sound good?

File: proof/refine/RISCV64/Ipc_R.thy (hunk 110 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy]: I'll need to make a bunch of other changes before I get to this, but I'll report back when I get here.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 114 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:3453]: Both `valid_sched_weak_strg` and `idle_tsr` were there before, within the `interpretation`. There's already a `FIXME` there, so we should move these when we do arch-split.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 101 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: That does sound like the right idea, yes. KHeap_R feels a bit early for these, but if that's where they're needed, then that's how it goes

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 98 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchKHeap_R.thy:1257]: Are you sure you're looking at a recent version of master? Because when I do a search, I find:
`lemma pspace_relation_cte_wp_atI'[CSpace1_R_assms]:`
and
```
CSpace1_R.thy
91:  assumes pspace_relation_cte_wp_atI':
```
meaning that it already was interfaced, and hence the lemma that used it could be generic. If that hasn't yet been merged to `rt` and hence you don't have access to it, then you should still copy the way the interface was done. We shouldn't undo arch-split steps, because ultimately `rt` will need to be arch-split, and it'll be a waste of time to be going over the same lemmas again that were already interfaced on master.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 114 above)
Comment (Xaphiosis) [reply proof/refine/RISCV64/Ipc_R.thy:3453]: ok, then it was confusion related to the diff. I agree

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 101 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: I didn't realise at first, but the assumption I was wanting to add would have a Haskell TCB and an abstract TCB. So maybe instead we can have an assumption that says that `hyp_live' (KOTCB tcb') ==> live' (KOTCB tcb')` and then another assumption that says that `hyp_live'` and `hyp_live` are equivalent for TCBs, when we have `pspace_relation`, or something. Is that too much to bother with?

Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchKHeap_R.thy]: It's a good arch-split exercise, looking for the minimal interface surface needed to make a longer lemma generic, so I'd say give it a go (maybe after you're done with the other comments)

File: proof/refine/RISCV64/Ipc_R.thy [hunk 121]
```diff
@@ -2305,68 +2275,257 @@ lemma reply_push_valid_objs:
...
+
+method ipc_append =
+  (rule det_wp_pre no_fail_pre, rule tcb_append_rules, fastforce)[1] | wpsimp
+
+lemma threadGet_rcorres:
+  "(\<And>tcb tcb'. tcb_relation tcb tcb' \<Longrightarrow> rrel (f tcb) (f' tcb'))
+   \<Longrightarrow> rcorres
+         (\<lambda>s s'. tcbs_relation s s' \<and> tcb_at t s)
+         (gets_the (thread_read f t)) (gets_the (threadRead f' t))
+         (\<lambda>rv rv' _ _. rrel rv rv')"
```
Comment (corlewis) [inline proof/refine/RISCV64/Ipc_R.thy:2323]: Is this name right? I guess those are the unfolded definitions for `thread_get` and `threadGet`

File: proof/refine/RISCV64/Ipc_R.thy [hunk 122]
```diff
@@ -5869,119 +6016,88 @@ crunch copyMRs, doIPCTransfer
...
-  apply (rename_tac ep)
-  apply (case_tac "ntfnObj ep"; clarsimp)
+  apply (simp add: invs'_def valid_pspace'_def valid_dom_schedule'_def)
+  apply (wpsimp wp: valid_irq_node_lift valid_irq_handlers_lift'' irqs_masked_lift
+              simp: cteCaps_of_def o_def)
+  done
+
+(* t = ksCurThread s *)
+lemma receiveSignal_invs'[wp]:
+  "receiveSignal t cap isBlocking \<lbrace>invs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/RISCV64/Ipc_R.thy:6083]: This was an existing comment but any guess what it's for?

File: proof/refine/RISCV64/Tcb_R.thy [hunk 123]
```diff
@@ -137,11 +133,18 @@ crunch cancel_ipc
   for sc_tcb_sc_at[wp]: "sc_tcb_sc_at P t"
   (wp: crunch_wps)
 
+lemma release_queue_update_ready_queues_runnable[simp]:
+  "ready_queues_runnable (release_queue_update f s) = ready_queues_runnable s"
```
Comment (corlewis) [inline proof/refine/RISCV64/Tcb_R.thy:137]: Move?

File: proof/refine/RISCV64/Tcb_R.thy [hunk 124]
```diff
@@ -586,91 +525,108 @@ lemma threadSet_valid_objs_tcbPriority_update:
...
-  apply (case_tac "tcbState obj"; clarsimp simp: ntfnBlocked_def getntfnQueue_def split: ntfn.splits)
-  apply (frule_tac ko=obj and p=tptr in sym_refs_ko_atD'[rotated])
-   apply (clarsimp simp: obj_at'_def projectKO_eq projectKO_tcb)
-  apply (clarsimp simp: invs'_def valid_idle'_def live'_def live_ntfn'_def
-                        if_live_then_nonz_cap'_def refs_of_rev' get_refs_def
-                        ko_wp_at'_def obj_at'_def projectKO_eq projectKO_tcb
-                 split: option.splits)
-  done
+lemma reorderEp_valid_objs'[wp]:
+  "\<lbrace>valid_objs' and tcb_at' tptr \<rbrace> reorderEp epPtr tptr \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/RISCV64/Tcb_R.thy]:
```suggestion
  "\<lbrace>valid_objs' and tcb_at' tptr\<rbrace> reorderEp epPtr tptr \<lbrace>\<lambda>_. valid_objs'\<rbrace>"
```

File: proof/refine/RISCV64/Syscall_R.thy [hunk 125]
```diff
@@ -1242,6 +1218,10 @@ crunch replyFromKernel
   for valid_objs'[wp]: valid_objs'
   (simp: crunch_simps wp: crunch_wps)
 
+lemma active_not_halted:
+  "active st \<Longrightarrow> \<not> halted st"
```
Comment (corlewis) [inline proof/refine/RISCV64/Syscall_R.thy:1223]: We really should clean up all of these `thread_state` abbreviations to more nicely work with each other.
For now, maybe move? This could also be in a form that goes both directions but that's probably not worth fiddling with now

File: proof/refine/RISCV64/ADT_H.thy [hunk 126]
```diff
@@ -451,20 +456,25 @@ begin
...
+  case_tac ko;
+  clarsimp simp: ep_relation_cut_def ntfn_relation_cut_def cte_relation_def
+          split: if_split_asm
 
 lemma absHeap_correct:
   fixes s' :: kernel_state
   assumes pspace_aligned:  "pspace_aligned s"
   assumes pspace_distinct: "pspace_distinct s"
   assumes valid_objs:      "valid_objs s"
+  assumes valid_objs':      "valid_objs' s'"
```
Comment (corlewis) [inline proof/refine/RISCV64/ADT_H.thy]:
```suggestion
  assumes valid_objs':     "valid_objs' s'"
```

**Review by corlewis — APPROVED** [review]
Very impressive getting through this massive amount of work! It's definitely nicer that it's done here instead of being mixed into CRefine.

There were some parts, particularly in TcbAcc_R, where the proofs and their repetition were a bit worrying, but it also all looked fiddly enough that I couldn't make any specific suggestions. Not sure what we can do beyond looking for opportunities to make abstractions where we can if/when we touch these proofs again.

Also, it's a long way in the future but I'm looking forward to when we can do similar to master and make all of this properly consistent! That might also let us adjust same of the naming, everything being named sched is a bit confusing in the contexts of the other queues.

File: proof/refine/RISCV64/Syscall_R.thy (hunk 125 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Syscall_R.thy:1223]: Yep, I'll add a `FIXME RT: move`.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 123 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Tcb_R.thy:137]: `ready_queues_runnable` is one of those new invariants that we might prefer to keep in Refine for now, seeing that they're only used here and moving them to AInvs could backfire if they need to be changed for something in Refine.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 122 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:6083]: Nope, not sure, sorry. There are quite a few of these comments (at least in MCS) saying that some pointer will be the current thread.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 121 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy:2323]: Yeah you're right. I can investigate whether folding things or changing the name is better.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 120 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: You mean like a "misc" style lemma that we have in `DetSchedSchedule`? We don't want that style any more. Or do you mean like many lemma statements and one proof that runs through them all with a `+`?

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 119 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: I might have not moved this one because I know that these forwards style rules are contentious. If people are happy with it, I can move it to `Lib`, in a separate commit, so it can be cherry-picked onto `master`.

File: proof/refine/RISCV64/ArchKHeap_R.thy (hunk 98 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/ArchKHeap_R.thy:1257]: You're right. Since I want `pspace_relation_cte_wp_atI'` in `KHeap_R.thy` to help me with this `if_live_then_nonz_cap_to_cross` lemma, I have gone with this approach.

I've moved the `pspace_relation_cte_wp_atI'` assumption to the `KHeap_R` locale, and have also added the following:

```
  assumes hyp_live_live: "⋀ko. hyp_live ko ⟹ live ko"
  assumes hyp_live'_live': "⋀ko'. hyp_live' ko' ⟹ live' ko'"
  assumes hyp_live'_hyp_live:
    "⋀t ko' (s :: det_state) s'.
     ⟦ksPSpace s' t = Some ko'; hyp_live' ko'; tcbs_relation s s'; aobjs_relation s s'⟧
     ⟹ ∃ko. kheap s t = Some ko ∧ hyp_live ko"
  assumes ex_nonz_cap_to_arch_obj_cross:
    "⋀ptr (s :: det_state) s' ako.
      ⟦ex_nonz_cap_to ptr s; pspace_relation (kheap s) (ksPSpace s');
       valid_objs s; pspace_aligned' s'; pspace_distinct' s';
       ksPSpace s' ptr = Some (KOArch ako); hyp_live' (KOArch ako)⟧
      ⟹ ex_nonz_cap_to' ptr s'"
```

The first two seem straightforward, the third is like a crossing from concrete to abstract, and the last is sort of an analogue of the other `ex_nonz_cap_to` crossing lemmas that I have for the other object types, though with the `hyp_live'` assumption there, too. 

Because `hyp_live'` is just `False` on RISCV64, these are all trivial, though I have tried proving these assumptions in the `Arch` locale on `AARCH64`, where `hyp_live'` isn't trivial, and I can prove them (modulo some crossing of things like VCPUs that I sorried).

Does that look OK? Now all the lemmas for `if_live_then_nonz_cap_to_cross` are either generic in `KHeap_R.thy` or within the locale.

Comment (Xaphiosis) [reply proof/refine/RISCV64/ArchKHeap_R.thy:1257]: Those `hyp_live` and `hyp_live'` results are a bit unexpected. I thought they'd be false at first, but `hyp_live'` is False for anything other than a TCB and VCPU. For a VCPU, `live'` and `hyp_live'` are equivalent, for a TCB, there's an `∧` with live0', which also works out. Bit surprised you need them though, but I think they're fine.

They don't feel great in KHeap_R, and a better place would be to shove them in ArchInvsLemmas_H, but unfortunately I did not create a locale there for more additions. There's a comment above `Invariants_H_cte_ats` about naming in that file, and `Invariants_H_pspaceI` locale has more than pspace stuff in it. Pfff. But this is beyond what you want in your PR, so maybe add a `(* FIXME arch-split: move to Invariants_H *)` for those two, and we fix my oversight on pass 2 of arch-split?

I'm not sure what you mean `I can prove them (modulo some crossing of things like VCPUs that I sorried)` - do you mean the crossing lemmas?

For the cross lemma, I think it's ok. Indentation issue with the interface: the `⟦` should be as deep as the `⋀` to keep consistent and show that the qualification is not really relevant to anything other than keeping variables from clashing.

I'm still puzzled a bit. The assumptions of the cross lemma seem a bit arbitrary: for abstract there is ex_nonz_cap_to and valid_objs, but the rest is on the concrete side. Can you confirm nothing that you're assuming from the concrete side can be crossed from the abstract? I'm guessing there's no straightforward cross because PTEs are objects on the concrete side, but a table is an object on the abstract side.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: I've decided to instead write a longish comment for `orderedInsert`. Here it is

Performs an ordered insert of the item t into a linked list of TCBs, according to the values given by
the reader function f, and the ordering r, assuming that the linked list is originally sorted. The linked list
must have head and end given by the queue q, and must use the tcbSchedNext field of the TCB as the next pointer
in the linked list. We first check to see whether t should be prepended to the list, then we check to see
whether t should be appended to the list. Otherwise, t should be inserted into the middle of the list. To do so,
we call the function findInsertionPoint, which will start at the head of the list and will traverse the list
until it finds an element in the list where the comparison of values fails. The item t is then inserted immediately
before this element.

How does that sound?

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 67 above)
Comment (michaelmcinerney) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Because `f` is a monadic function, I need to use it within a `do` block with a `<-` to actually get `val'`. So I can improve this a little bit, but not much.

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 69 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: Sounds good to me.
Doesn't say why the first arg is a Maybe, but it does explain the rest

File: proof/refine/RISCV64/Schedule_R.thy (hunk 113 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Schedule_R.thy]: Moved to `Invariants_H`, next to one other lemma about `sch_act_sane`

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 120 above)
Comment (corlewis) [reply proof/refine/RISCV64/IpcCancel_R.thy]: > Or do you mean like many lemma statements and one proof that runs through them all with a `+`?

This one

File: proof/refine/TcbAcc_R.thy (hunk 107 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy]: This (`no_fail_findInsertionPointBackwards`) really is an exceptionally difficult proof, probably the single worst proof in the whole PR. It's showing `no_fail` for a `whileLoop`, which mainly boils down to showing termination, and termination is shown via the very involved rule `whileLoop_terminates_cross_ret`. This rule has many assumptions, and the proof is mostly just showing these bits. If I were to try adding in points of interest or stages to this proof, it would really just be noting which of the assumptions of `whileLoop_terminates_cross_ret` we're currently dealing with, which does not seem helpful if this rule is not changed (it's in Lib, so it's intended to be definitive). It makes for a daunting proof script, but at least following the proof in jEdit is not difficult.

File: proof/refine/TcbAcc_R.thy (hunk 108 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy]: I couldn't get either of those methods working, and I couldn't see something that would allow me to symbolically execute on the left or right until the head contained a particular term like `threadSet`. I have added a couple comments to help explain what I'm wanting to do.

File: proof/refine/TcbAcc_R.thy (hunk 87 above)
Comment (michaelmcinerney) [reply proof/refine/TcbAcc_R.thy:1019]: The formula you had doesn't type check, because the `P` in the Hoare triple will be about a heap, and then in the assumption, it's talking about some field of a TCB. I can't think of a nice way to make this rule more general. Is there a way? Maybe I am being a bit slow.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 120 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: I've done this in a few spots in this theory, though now I'm quite sure it will start a flame war over the style I have used...

Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: Actually, I can't consolidate things quite as much as I'd like, because the little custom method I used actually refers to the schematic `P`, and if we bundle them all together, I can't reuse schematics when talking about different heaps. So I'll have to have one bundle for each type of heap.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 117 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy:3572]: This and the proof of `cancelAllSignals_corres` are similar to the proof of `no_fail_findInsertionPointBackwards` in that it's a fairly difficult proof that mainly boils down to showing the many assumptions of `corres_mapM_x_whileLoop`. Again I think that adding markers would really just be showing where the different assumptions of the rule are proved, which doesn't seem all that helpful. 

I did have one step in the proof that just steps over the `mapM_x/whileLoop`, leaving `rescheduleRequired`, so I have added a comment about that.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 110 above)
Comment (michaelmcinerney) [reply proof/refine/RISCV64/Ipc_R.thy]: I actually can see this method outside the context block, after making it private. Does that mean that the encapsulation is broken? If so, should I just not bother making it private?

File: proof/refine/TcbAcc_R.thy (hunk 87 above)
Comment (corlewis) [reply proof/refine/TcbAcc_R.thy:1019]: Ah, I missed that the lemma is talking about a property of a heap. There might be a way to generalise it but I can't think of anything nice either, and it's probably not worth trying too hard.

**Comment by michaelmcinerney** [comment]
I did forget to update the commit message, of course, but I will do that when the tests have passed. Hopefully the cache will pick it up again.

**Comment by michaelmcinerney** [comment]
I have fixed up the commit message for the main commit, removing the extra "the" that Corey spotted, and wrapping at 78 characters for both the header and the body.

File: lib/RCorres.thy (hunk 1 above)
Comment (lsf37) [reply lib/RCorres.thy]: I think `intro` is so far the best candidate, because it gives you a hint in which mode the rule is applied. Shall we go with that?

Comment (lsf37) [reply lib/RCorres.thy]: Right, I see that you've already done that. GitHub is starting to become a hindrance rather than a tool.

File: proof/refine/RISCV64/SchedContextInv_R.thy (hunk 25 above)
Comment (lsf37) [reply proof/refine/RISCV64/SchedContextInv_R.thy:409]: Right, that makes sense. No problem with the name, I was just worried about a background context change. Fine to leave it as is.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 34 above)
Comment (lsf37) [reply proof/refine/RISCV64/IpcCancel_R.thy]: That's fine.

File: proof/refine/RISCV64/Tcb_R.thy (hunk 50 above)
Comment (lsf37) [reply proof/refine/RISCV64/Tcb_R.thy]: very inconsistent of Isabelle :-)

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 55 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: Yup, also happy with that.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 63 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: Yes, we've thought about it. The ASpec type is still correct by construction (the type is tight), but for Haskell we opted to move closer to C.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 65 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: (same reason as for notifications)

File: spec/haskell/src/SEL4/Object/SchedContext.lhs (hunk 71 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/SchedContext.lhs]: `prepend` is fine for here. Technically it should not be a verb if it is a test not a function (maybe `isPrepend` instead), but it is used immediately in an `if` so it's clear enough what it is.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 75 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: I can't see the position in this GitHub non-interface, but I definitely vote for `if` over `case` on bool.

File: spec/haskell/src/SEL4/Object/Endpoint.lhs (hunk 77 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Endpoint.lhs]: Given that this is already happening (also on master), I don't think we want to start mixing in a cleanup of it into this PR. Generally I don't mind short names when the context is reasonably clear, but having an overall convention removes the need to decide whether it is clear or not.

File: spec/haskell/src/SEL4/Object/Notification.lhs (hunk 82 above)
Comment (lsf37) [reply spec/haskell/src/SEL4/Object/Notification.lhs]: I think they are already renamed (and that's fine as well), but for future use: `q'` as "updated `q`" does make sense to me. At least that's a pretty common convention.

File: proof/refine/RISCV64/Ipc_R.thy (hunk 110 above)
Comment (lsf37) [reply proof/refine/RISCV64/Ipc_R.thy]: I'd still make it private. It marks intention and maybe the encapsulation it will actually start working at some point.

File: proof/refine/RISCV64/IpcCancel_R.thy (hunk 119 above)
Comment (lsf37) [reply proof/refine/RISCV64/IpcCancel_R.thy]: If we have it at all, we probably should move it. I'd be fine with a FIXME move for now if you don't want to move it immediately.

Comment (michaelmcinerney) [reply proof/refine/RISCV64/IpcCancel_R.thy]: I did put this in its own commit in Lib after the standard version of this rule. There were plenty of other forwards style rules there so I thought I may as well add this one.
